### PR TITLE
feat(Control/Monad/Free): define free monad, prove it lawful, and implement standard effects

### PR DESCRIPTION
**Pull request by tannerduve**
This PR introduces the `Free` monad. This implementation uses the "freer monad" approach as the traditional free monad (eg from [Haskell](https://hackage.haskell.org/package/free-5.2/docs/Control-Monad-Free.html)) is not safely definable in Lean due to termination checking (it's not strictly positive).

The main contributions are:

* Definition of the `Free` monad as an inductive type which generates a monad given any type constructor `F : Type -> Type`.
* Functor and Monad instances for `Free F`, along with proofs of the `LawfulFunctor` and `LawfulMonad` laws.
* Canonical instances of `Free` with standard effect signatures:

  * `FreeState s` for stateful computations, defined via a `StateF s` functor with `get` and `put` operations.
  * `FreeWriter w` for logging computations, defined via a `WriterF w` functor with a `tell` operation.
  * `FreeCont r` for continuation-passing computations, using the CPS functor `(α → r) → r`.

In this construction, computations are represented as **trees of effects**. Each node (`liftBind`)
represents a request to perform an effect, accompanied by a continuation specifying how the
computation proceeds after the effect. The leaves (`pure`) represent completed computations with
final results.

A key insight is that `FreeM F` satisfies the **universal property of free monads**: for any monad
`M` and effect handler `f : F → M`, there exists a unique way to interpret `FreeM F` computations
in `M` that respects the effect semantics given by `f`. This unique interpreter is `liftM f`, which
acts as the canonical **fold** for free monads.

To execute or interpret these computations, we provide two approaches:
1. **Hand-written interpreters** (`FreeState.run`, `FreeWriter.run`, `FreeCont.run`) that directly
pattern-match on the tree structure
2. **Canonical interpreters** (`FreeState.toStateM`, `FreeWriter.toWriteT`, `FreeCont.toContT`) derived from
the universal property via `liftM`

And then prove that these approaches are equivalent

---

This PR adds new files and definitions; no breaking changes.

**Tags:** free monad, freer monad, effect systems, state monad, writer monad, continuation monad, operational semantics, verified interpreters

### CODE REVIEW

File: Mathlib/Control/Monad/Freer.lean [hunk 1]
```diff
@@ -0,0 +1,254 @@
...
+/-- The Freer monad over a type constructor `f`.
+
+A `Freer f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `impure` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
+this does not require `f` to be a functor. -/
+inductive Freer (f : Type → Type) (a : Type) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Does making this universe polymorphic create any difficulty?

File: Mathlib/Control/Monad/Freer.lean [hunk 2]
```diff
@@ -0,0 +1,254 @@
...
+| pure : a → Freer f a
+| impure : ∀ x, f x → (x → Freer f a) → Freer f a
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I think it might be more insightful to name the constructor arguments here, perhaps
```suggestion
| impure (ι : Type) (op : f ι) (cont : ι → Freer f a) : Freer f a
```
though perhaps you can come up with better names than me.

File: Mathlib/Control/Monad/Freer.lean [hunk 3]
```diff
@@ -0,0 +1,254 @@
...
+    case pure a => simp [Freer.map]
+    case impure X Fx f ih => simp [Freer.map, ih]
+
+/-- Bind operation for the `Free` monad. -/
+def bindFree {a b : Type} (F : Type → Type) (x : Freer F a) (f : a → Freer F b) : Freer F b :=
+  match x with
+  | .pure a => f a
+  | .impure X Fx k => .impure X Fx (fun z => bindFree F (k z) f)
+
+instance FreeMonad {F : Type → Type} : Monad (Freer F) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: This name doesn't match the convention, and I don't think any name is really needed here:
```suggestion
instance {F : Type → Type} : Monad (Freer F) where
```

File: Mathlib/Control/Monad/Freer.lean [hunk 4]
```diff
@@ -0,0 +1,254 @@
...
+      apply funext; intro x; exact ih x
+  pure_seq := by
+    intro α β f x; simp [Seq.seq, Functor.map, pure, bindFree]
+
+/-! ### State Monad via `Freer` -/
+
+/-- Functor for state operations. -/
+inductive StateF (s : Type) (a : Type) where
+| get : (s → a) → StateF s a
+| put : s → a → StateF s a
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Could you document these constructors?

File: Mathlib/Control/Monad/Freer.lean [hunk 5]
```diff
@@ -0,0 +1,254 @@
...
+
+instance {s : Type} : Functor (StateF s) where
+  map f
+  | StateF.get k => StateF.get (f ∘ k)
+  | StateF.put st a => StateF.put st (f a)
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: nit:
```suggestion
  | .get k => .get (f ∘ k)
  | .put st a => .put st (f a)
```
and throughout

File: Mathlib/Control/Monad/Freer.lean [hunk 6]
```diff
@@ -0,0 +1,254 @@
...
+
+/-- State monad via the `Freer` monad. -/
+def FreerState (s : Type) := Freer (StateF s)
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I assume
```suggestion
abbrev FreerState (s : Type) := Freer (StateF s)
```
works just fine?

File: Mathlib/Control/Monad/Freer.lean [hunk 7]
```diff
@@ -0,0 +1,254 @@
...
+instance {s : Type} : Monad (FreerState s) := FreeMonad
+instance {s : Type} : LawfulMonad (FreerState s) := FreeLawfulMonad
+
+/-- Get the current state. -/
+def get {s : Type} : FreerState s s :=
+  Freer.impure s (StateF.get id) Freer.pure
+
+/-- Set the state. -/
+def put {s : Type} (newState : s) : FreerState s PUnit :=
+  Freer.impure PUnit (StateF.put newState PUnit.unit) Freer.pure
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Can you implement `MonadState` here instead?

File: Mathlib/Control/Monad/Freer.lean [hunk 8]
```diff
@@ -0,0 +1,254 @@
...
+    case impure X Fx k ih =>
+      simp [Freer.map, Seq.seq, bindFree, Functor.map, SeqRight.seqRight] at ih ⊢
+      apply funext; intro x; exact ih x
+  pure_seq := by
+    intro α β f x; simp [Seq.seq, Functor.map, pure, bindFree]
+
+/-! ### State Monad via `Freer` -/
+
+/-- Functor for state operations. -/
+inductive StateF (s : Type) (a : Type) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: The convention elsewhere is to use \sigma and \alpha for state monads.

File: Mathlib/Control/Monad/Freer.lean [hunk 9]
```diff
@@ -0,0 +1,254 @@
...
+  | .pure a => f a
+  | .impure X Fx k => .impure X Fx (fun z => bindFree F (k z) f)
+
+instance FreeMonad {F : Type → Type} : Monad (Freer F) where
+  pure := Freer.pure
+  bind := bindFree F
+
+instance FreeLawfulMonad {F : Type → Type} : LawfulMonad (Freer F) where
+  bind_pure_comp := by
+    intro α β x y; simp [Functor.map, bind, pure]; induction y
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
  bind_pure_comp α β x y := by
    simp [Functor.map, bind, pure]; induction y
```
or similar, throughout

**Review by eric-wieser — COMMENTED** [review]
I suspect there's some overlap here with #22194, but I'm not yet certain. My main question is whether somehow the dependent types present there are lost here, but I think generally documenting more would help me work that out!

File: Mathlib/Control/Monad/Freer.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: hm I did try this:
```
inductive Freer.{u, v} (f : Type u → Type v) (α : Type u) : Type (max u v) where
  | pure : α → Freer f α
  | impure (ι : Type u) (op : f ι) (cont : ι → Freer f α) : Freer f α
```
 and got the following:
```
invalid universe level in constructor 'Freer.impure', parameter 'ι' has type
  Type u
at universe level
  u+2
which is not less than or equal to the inductive type's resulting universe level
  max (u+1) (v+1)
  ```
  
  should I try something different or just stick to what I have?

**Comment by tannerduve** [comment]
Okay I looked at #22194. There does seem to be some overlap in technique but the motivation is pretty different. From what I understand the other PR is about analyzing complexity bounds on effectful computations. The freer monad is meant as a foundational FP abstraction for combining and interpreting effects. See [Free](https://hackage.haskell.org/package/free) and [Freer](https://hackage.haskell.org/package/freer-simple-1.2.1.2/docs/Control-Monad-Freer.html) in Haskell for example. I thought that it would be good to have this in Lean since it's in the library of other FP langs. Note that we choose Freer here because the usual definition of Free is undefinable in Lean due to strict positivity - Freer is both a workaround and a generalization. In any case hopefully some of the additional documentation helps you decide. Thank you for reviewing!!

File: Mathlib/Control/Monad/Freer.lean [hunk 10]
```diff
@@ -0,0 +1,266 @@
...
+    intro α β f x; simp [Seq.seq, Functor.map, pure, bindFree]
+
+/-! ### State Monad via `Freer` -/
+
+/-- Type constructor for state operations. -/
+inductive StateF (σ : Type) (α : Type) where
+  /-- Get the current state, passing it to the continuation. -/
+  | get : (σ → α) → StateF σ α
+  /-- Set the state to a new value, continuing with the given result. -/
+  | put : σ → α → StateF σ α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: What are the arguments here?

File: Mathlib/Control/Monad/Freer.lean [hunk 11]
```diff
@@ -0,0 +1,266 @@
...
+  get := Freer.impure σ (StateF.get id) Freer.pure
+  set newState := Freer.impure PUnit (StateF.put newState PUnit.unit) Freer.pure
+  modifyGet f := Freer.impure σ (StateF.get id) (fun s =>
+    let (a, s') := f s
+    Freer.impure PUnit (StateF.put s' PUnit.unit) (fun _ => Freer.pure a))
+
+instance {σ : Type} : MonadState σ (FreerState σ) := inferInstance
+
+/-- Modify the state using a function. -/
+def modify {σ : Type} (f : σ → σ) : FreerState σ PUnit := do
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Do we need this? Isn't this the same as the `modify` that already exists using MonadState?

File: Mathlib/Control/Monad/Freer.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: You should remove the `: Type (max u v)`, and let lean work it out for you instead.

File: Mathlib/Control/Monad/Freer.lean (hunk 11 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: correct, not needed. thanks for catching that.

File: Mathlib/Control/Monad/Freer.lean (hunk 10 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: added documentation

File: Mathlib/Control/Monad/Freer.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: got it. went thru and made things universe polymorphic wherever possible

**Comment by tannerduve** [comment]
(lmk if it's annoying to re-request every time I make changes idk how this works from the reviewer POV)

File: Mathlib/Control/Monad/Freer.lean [hunk 12]
```diff
@@ -125,118 +127,116 @@ instance FreeLawfulMonad {F : Type → Type} : LawfulMonad (Freer F) where
 /-! ### State Monad via `Freer` -/
 
 /-- Type constructor for state operations. -/
-inductive StateF (σ : Type) (α : Type) where
-  /-- Get the current state, passing it to the continuation. -/
+inductive StateF (σ : Type u) (α : Type v) where
+  /-- Get the current state, passing it to the continuation.
+  - `k : σ → α`: continuation that receives the current state -/
   | get : (σ → α) → StateF σ α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
  | get (cont : σ → α) : StateF σ α
```

File: Mathlib/Control/Monad/Freer.lean [hunk 13]
```diff
@@ -125,118 +127,116 @@ instance FreeLawfulMonad {F : Type → Type} : LawfulMonad (Freer F) where
...
-  /-- Set the state to a new value, continuing with the given result. -/
+  /-- Set the state to a new value, continuing with the given result.
+  - `newState : σ`: the new state to set
+  - `result : α`: the result to continue with -/
   | put : σ → α → StateF σ α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Does this work as
```suggestion
  -/
  | put : σ → StateF σ PUnit
```

Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: It looks like you lose the `Functor` instance (which isn't used), but everything else still works.

Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: This leads to this error on my end:

```
Mismatched inductive type parameter in
  StateF σ PUnit
The provided argument
  PUnit
is not definitionally equal to the expected parameter
  α

Note: The value of parameter 'α' must be fixed throughout the inductive declaration. Consider making this parameter an index if it must vary.
```

Making `α` an index then causes a universe issue, since it ends up needing to range over both `u` and `v`. Also doesn't the extra parameter α make it more general?

**Comment by eric-wieser** [comment]
> (lmk if it's annoying to re-request every time I make changes idk how this works from the reviewer POV)

Copilot looks pretty useless here to me so I'd suggestion not re-requesting further. Happy for you to re-request my review when you've responded.

File: Mathlib/Control/Monad/Freer.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: The working version is
```lean
/-- Type constructor for state operations. -/
inductive StateF (σ : Type u) : Type v → Type _ where
  /-- Get the current state, passing it to the continuation that receives the current state -/
  | get (cont : σ → α) : StateF σ α
  /-- Set the state to a new value. -/
  | put : σ → StateF σ PUnit
```

> Also doesn't the extra parameter α make it more general?

Not really, I think it just means that `put` isn't also acting as `pure`.

Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: In fact, I think
```lean
/-- Type constructor for state operations. -/
inductive StateF (σ : Type u) : Type v → Type _ where
  /-- Get the current state-/
  | get : StateF σ σ
  /-- Set the state to a new value. -/
  | put : σ → StateF σ PUnit
```
works just as well, which also removes the `bind` from `get`?

Edit: no, this one doesn't work!

Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: @tannerduve, looks like you unfortunately missed my edit about; removing the continuation seems to force some universe monomorphism, which is undesirable.

Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: Ah, the problem is elsewhere!

File: Mathlib/Control/Monad/Freer.lean [hunk 14]
```diff
@@ -0,0 +1,255 @@
...
+
+A `Freer f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `impure` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
+this does not require `f` to be a functor. -/
+
+inductive Freer.{u, v} (f : Type u → Type v) (α : Type u) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
inductive Freer.{u, v, w} (f : Type u → Type v) (α : Type w) where
```
lets you regain your universe polymorphism that you gave up below

Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: ok did this and everything works. lmk if I missed anything.

File: Mathlib/Control/Monad/Freer.lean [hunk 15]
```diff
@@ -0,0 +1,254 @@
...
+## Implementation Notes
+
+The `Freer` monad is defined using an inductive type with constructors `pure` and `impure`.
+We implement `Functor` and `Monad` instances, and prove the corresponding `LawfulFunctor`
+and `LawfulMonad` instances.
+
+The monads `FreerState`, `FreerWriter`, and `FreerCont` are built by supplying appropriate functors
+to the `Freer` constructor. They are equipped with interpreters and helper functions.
+
+
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Can you add a reference here?

File: Mathlib/Control/Monad/Freer.lean [hunk 16]
```diff
@@ -0,0 +1,254 @@
...
+Copyright (c) 2025 Tanner Duve. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tanner Duve
+-/
+import Mathlib.Algebra.Group.Defs
+
+/-!
+# Freer Monad and Common Instances
+
+This file defines a general `Freer` monad construction and several canonical instances:
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: My initial reading of this was "freer as in beer", but I guess it's actually supposeed to be read as "more free"? Can you write a sentence or two about the link to the free monad, and perhaps link some relevant haskell docs?

File: Mathlib/Control/Monad/Freer.lean [hunk 17]
```diff
@@ -0,0 +1,254 @@
...
+abbrev FreerWriter (w : Type u) := Freer (WriterF w)
+
+namespace FreerWriter
+
+instance {w : Type u} : Monad (FreerWriter w) := inferInstance
+instance {w : Type u} : LawfulMonad (FreerWriter w) := inferInstance
+
+/-- Append to the log. -/
+def tell {w : Type u} (log : w) : FreerWriter w PUnit :=
+  Freer.impure PUnit (WriterF.tell log PUnit.unit) Freer.pure
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Does this satisfy `MonadWriter`? I just made #25550 to make it easier to answer that question!

File: Mathlib/Control/Monad/Freer.lean [hunk 18]
```diff
@@ -0,0 +1,254 @@
...
+  (runState c s₀).2
+
+end FreerState
+
+/-! ### Writer Monad via `Freer` -/
+
+/-- Type constructor for writer operations. -/
+inductive WriterF (w : Type u) (α : Type v) where
+  /-- Append a value to the log, continuing with the given result. -/
+  | tell : w → α → WriterF w α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: As with `StateT`, my inclination would be to restrict this to `PUnit` too.

File: Mathlib/Control/Monad/Freer.lean (hunk 17 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: Just added a MonadWriter instance in the code, if that's what you meant by satisfies.

File: Mathlib/Control/Monad/Freer.lean (hunk 16 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: yeah - more free in the sense that it is a free monad on any type constructor, ie. it doesn't require functoriality of its "basis". If you're curious I wrote a blog post on this - https://tannerduve.github.io/blog/freeer-monad/

just added a blurb to the docstrings. wasn't sure if Haskell documentation would be considered an official reference so I just linked it at the end of the file description

File: Mathlib/Control/Monad/Freer.lean (hunk 15 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: done. added Kiselyov and Ishii paper

File: Mathlib/Control/Monad/Freer.lean (hunk 18 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: done. works easily.

File: Mathlib/Control/Monad/Freer.lean (hunk 17 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: Also MonadCont in my latest push. Good to include all these.

File: Mathlib/Control/Monad/Freer.lean [hunk 19]
```diff
@@ -24,9 +29,15 @@ The `Freer` monad is defined using an inductive type with constructors `pure` an
...
 
-The monads `FreerState`, `FreerWriter`, and `FreerCont` are built by supplying appropriate functors
-to the `Freer` constructor. They are equipped with interpreters and helper functions.
+The monads `FreerState`, `FreerWriter`, and `FreerCont` are built by supplying appropriate
+effect type constructors to the `Freer` constructor. They are equipped with interpreters
+and helper functions.
+
+## References
 
+* Oleg Kiselyov, Hiromi Ishii. "Freer Monads, More Extensible Effects".
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Can you add this to references.bib?

File: Mathlib/Control/Monad/Freer.lean [hunk 20]
```diff
@@ -0,0 +1,290 @@
...
+def runWriter {w : Type u} {α : Type v} [AddMonoid w] (computation : FreerWriter w α) : α × w :=
+  match computation with
+  | Freer.pure a => (a, 0)
+  | Freer.impure _ (WriterF.tell log) cont =>
+      let (result, accLog) := runWriter (cont PUnit.unit)
+      (result, log + accLog)
+
+/-- Capture the output produced by a computation. -/
+def listen {w : Type u} {α : Type v} [AddMonoid w] (comp : FreerWriter w α) :
+FreerWriter w (α × w) := Freer.pure (runWriter comp)
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: My understanding here is that you need to re-emit what was previously logged after capturing it

File: Mathlib/Control/Monad/Freer.lean (hunk 19 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: You should now use the `[ ... ][Kiselyov2015]` syntax to reference this. Look at another example to see what the mathlib citation style is.

File: Mathlib/Control/Monad/Freer.lean [hunk 21]
```diff
@@ -0,0 +1,293 @@
...
+  | Freer.impure _ (WriterF.tell log) cont =>
+      let (result, accLog) := runWriter (cont PUnit.unit)
+      (result, log + accLog)
+
+/-- Capture the output produced by a computation. -/
+def listen {w : Type u} {α : Type v} [AddMonoid w] (comp : FreerWriter w α) :
+FreerWriter w (α × w) := do
+  let (result, log) := runWriter comp
+  tell log  -- re-emit the captured log
+  return (result, log)
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I'm suspicious that this has the wrong semantics, and actually `WriterF` needs this operation primitively. Your version buffers the captured output and emits it all at once, but I believe `listen` is not supposed to delay it.

Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: Yes you're right the semantics here were wrong, I had to rethink the implementation. Also improved the documentation.

I do think `tell` should be the only primitive operation in `WriterF`. The point of the free(r) monad is that it constructs essentially an AST of effects, and the underlying type constructor, e.g. WriterF, specifies the language the effect tree is built from. Since the Writer monad has only a single effect, namely writing a value to the log, then tell should be the only constructor. 

* `pure a` is a leaf: a final result of type `a`
* `impure l op k` is a branch: an effectful operation `op : f l` followed by a continuation `k`

For `WriterF`, branches represent `tell` operations and leaves represent return values. There are no other effects.

The interpreter `run` collapses the tree: it walks the structure, accumulates the log, and returns the final result. The issue with the previous implementation of listen is that by calling run first we collapse the tree

The new `listen` walks the tree re-emitting logs in order and accumulating them in the return value.

Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: I'm thinking about the case where you combine two writer monads at the same time, and suddenly the way in which they are interleaved is observable state. While indeed `FreerWriter` is correct as `tell` is the only operation, I don't think your `WriterF` will be at all useful if you try and compose it in any way.

File: Mathlib/Control/Monad/Freer.lean [hunk 22]
```diff
@@ -0,0 +1,352 @@
...
+A `Freer f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `impure` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
+this does not require `f` to be a functor. -/
+inductive Freer.{u, v, w} (f : Type u → Type v) (α : Type w) where
+  | pure : α → Freer f α
+  | impure (ι : Type u) (op : f ι) (cont : ι → Freer f α) : Freer f α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Are things more convenient for you with
```suggestion
  | impure {ι : Type u} (op : f ι) (cont : ι → Freer f α) : Freer f α
```
My guess would be that it can always be inferred.

File: Mathlib/Control/Monad/Freer.lean [hunk 23]
```diff
@@ -0,0 +1,352 @@
...
+      apply funext; exact ih
+  pure_seq f x := by
+    simp [Seq.seq, Functor.map, pure, bindFree]
+
+/-! ### State Monad via `Freer` -/
+
+/-- Type constructor for state operations. -/
+inductive StateF (σ : Type u) : Type u → Type _ where
+  | get : StateF σ σ                   -- get the current state
+  | set : σ → StateF σ PUnit           -- set the state
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: These should be `/--` comments so that they appear as docstrings.

File: Mathlib/Control/Monad/Freer.lean [hunk 24]
```diff
@@ -0,0 +1,352 @@
...
+/--
+`listen` captures the log produced by a subcomputation incrementally. It traverses the computation,
+emitting log entries as encountered, and returns the accumulated log as a result.
+-/
+def listen {ω : Type u} [Monoid ω] {α : Type v} : FreerWriter ω α → FreerWriter ω (α × ω)
+  | .pure a => .pure (a, 1)
+  | .impure _ (WriterF.tell w) k =>
+      Freer.impure _ (WriterF.tell w) fun _ =>
+        listen (k PUnit.unit) >>= fun (a, w') =>
+          pure (a, w * w')
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I think I agree that this is now correct!

File: Mathlib/Control/Monad/Freer.lean [hunk 25]
```diff
@@ -0,0 +1,352 @@
...
+  Freer.impure _ (ContF.callCC (fun k =>
+    run (f ⟨fun x => Freer.impure _ (ContF.callCC (fun _ => k x)) Freer.pure⟩) k
+  )) Freer.pure
+
+instance {r : Type u} : MonadCont (FreerCont r) where
+  callCC := FreerCont.callCC
+
+end FreerCont
+
+/-! ### Basic Examples -/
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I think these belong in a test file.

Can you make them provable by `(d)simp` instead of `rfl`, by adding suitable `simp` lemmas?

File: Mathlib/Control/Monad/Freer.lean [hunk 26]
```diff
@@ -0,0 +1,352 @@
...
+      case pure b => simp [bindFree, Freer.map]
+      case impure X Fy k ih => simp [bindFree, Freer.map, ih]
+    case impure X Fx k ih => simp [bindFree, Freer.map, ih]
+  seqRight_eq x y := by
+    simp [Functor.map, bindFree, Freer.map]; induction x
+    case pure a =>
+      simp [bindFree, Freer.map]
+      induction y
+      case pure b => simp [SeqRight.seqRight, Seq.seq, Functor.map, bindFree, Freer.map]
+      case impure X Fy k ih =>
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I don't think `case` is the preferred style, can you switch to `with` throughout?

File: Mathlib/Control/Monad/Freer.lean [hunk 27]
```diff
@@ -0,0 +1,352 @@
...
+  | .impure ι op cont => .impure ι op (fun z => Freer.map F f (cont z))
+
+instance {F : Type u → Type v} : Functor (Freer F) where
+  map := Freer.map F
+
+instance {F : Type u → Type v} : LawfulFunctor (Freer F) where
+  map_const {α β} := by
+    simp [Functor.mapConst, Functor.map]
+  id_map x := by
+    simp [Functor.map]
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: This is a non-terminal `simp`, which isn't allowed.

File: Mathlib/Control/Monad/Freer.lean [hunk 28]
```diff
@@ -0,0 +1,352 @@
...
+    case pure a => simp [Freer.map]
+    case impure ι op cont ih => simp [Freer.map, ih]
+  comp_map g h x := by
+    simp [Functor.map]
+    induction x
+    case pure a => simp [Freer.map]
+    case impure ι op cont ih => simp [Freer.map, ih]
+
+/-- Bind operation for the `Freer` monad. -/
+def bindFree {a b : Type _} (F : Type u → Type v) (x : Freer F a) (f : a → Freer F b) : Freer F b :=
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
protected def bind {a b : Type _} (F : Type u → Type v) (x : Freer F a) (f : a → Freer F b) : Freer F b :=
```

File: Mathlib/Control/Monad/Freer.lean [hunk 29]
```diff
@@ -0,0 +1,352 @@
...
+
+A `Freer f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `impure` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
+this does not require `f` to be a functor. -/
+inductive Freer.{u, v, w} (f : Type u → Type v) (α : Type w) where
+  | pure : α → Freer f α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
  | protected pure : α → Freer f α
```
which I think is legal.

File: Mathlib/Control/Monad/Freer.lean [hunk 30]
```diff
@@ -0,0 +1,352 @@
...
+def bindFree {a b : Type _} (F : Type u → Type v) (x : Freer F a) (f : a → Freer F b) : Freer F b :=
+  match x with
+  | .pure a => f a
+  | .impure ι op cont => .impure ι op (fun z => bindFree F (cont z) f)
+
+instance {F : Type u → Type v} : Monad (Freer F) where
+  pure := Freer.pure
+  bind := bindFree F
+
+instance FreeLawfulMonad {F : Type u → Type v} : LawfulMonad (Freer F) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
instance {F : Type u → Type v} : LawfulMonad (Freer F) where
```

File: Mathlib/Control/Monad/Freer.lean [hunk 31]
```diff
@@ -0,0 +1,352 @@
...
+    · case impure X Fx k ih => simp [bindFree, Freer.map, ih]
+  bind_map f x := by
+    simp [bind, Seq.seq]
+  pure_bind a f := by
+    simp [bind, pure, bindFree]
+  bind_assoc x f g := by
+    simp [bind]; induction x
+    case pure a => simp [bindFree, Freer.map]
+    case impure X Fx k ih => simp [bindFree, Freer.map, ih]
+  seqLeft_eq x y := by
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: I think you can save yourself a lot of work here by using `LawfulMonad.mk'`

File: Mathlib/Control/Monad/Freer.lean (hunk 25 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Freer.lean]: It looks like you forgot to commit the test file

File: Mathlib/Control/Monad/Freer.lean [hunk 32]
```diff
@@ -0,0 +1,283 @@
...
+/-- State monad via the `Freer` monad. -/
+abbrev FreerState (σ : Type u) := Freer (StateF σ)
+
+namespace FreerState
+
+instance {σ : Type u} : Monad (FreerState σ) := inferInstance
+instance {σ : Type u} : LawfulMonad (FreerState σ) := inferInstance
+
+instance {σ : Type u} : MonadStateOf σ (FreerState σ) where
+  get := Freer.impure StateF.get Freer.pure
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]: Can I suggest calling this
```suggestion
  get := Freer.lift StateF.get
```
since you use it multiple times in this PR

File: Mathlib/Control/Monad/Freer.lean [hunk 33]
```diff
@@ -0,0 +1,283 @@
...
+A `Freer f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `impure` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
+this does not require `f` to be a functor. -/
+inductive Freer.{u, v, w} (f : Type u → Type v) (α : Type w) where
+  | protected pure : α → Freer f α
+  | impure {ι : Type u} (op : f ι) (cont : ι → Freer f α) : Freer f α
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Freer.lean]:
```suggestion
  | liftBind {ι : Type u} (op : f ι) (cont : ι → Freer f α) : Freer f α
```
since this ultimately is `(lift op).bind cont` (a fact we should have a lemma about!)

File: Mathlib/Control/Monad/Freer.lean [hunk 34]
```diff
@@ -0,0 +1,283 @@
...
+Freer F b :=
+  match x with
+  | .pure a => f a
+  | .impure op cont => .impure op (fun z => Freer.bind F (cont z) f)
+
+instance {F : Type u → Type v} : Monad (Freer F) where
+  pure := Freer.pure
+  bind := Freer.bind F
+
+instance FreeLawfulMonad {F : Type u → Type v} : LawfulMonad (Freer F) := by
```
Comment (quangvdao) [inline Mathlib/Control/Monad/Freer.lean]: Since we are already in `Freer` namespace, this should be something like `instLawfulMonad`? This is probably also the default naming so you can leave the name unspecified.

**Comment by quangvdao** [comment]
We have been using this exact definition for a while in VCVio: https://github.com/dtumad/VCV-io/blob/master/ToMathlib/Control/FreeMonad.lean.

One thing that's missing from your PR is a `mapM` operation that maps / interprets into an arbitrary monad. This allows you to interpret `FreeState` into `StateM` for instance.

Also, I think the name `Freer`, without any "M" to denote that it's a monad, is incongruous with other monad names in Lean. Perhaps `FreerM`? Or just drop the "r" and say `FreeM`. I don't think we can write the usual definition of the Free monad (over a functor, i.e. `f (Free f a) \to Free f b`) in Lean, due to termination checking. So there is no chance of mix-up with the (original) Free monad.

**Comment by tannerduve** [comment]
> We have been using this exact definition for a while in VCVio: https://github.com/dtumad/VCV-io/blob/master/ToMathlib/Control/FreeMonad.lean.
> 
> One thing that's missing from your PR is a `mapM` operation that maps / interprets into an arbitrary monad. This allows you to interpret `FreeState` into `StateM` for instance.
> 
> Also, I think the name `Freer`, without any "M" to denote that it's a monad, is incongruous with other monad names in Lean. Perhaps `FreerM`? Or just drop the "r" and say `FreeM`. I don't think we can write the usual definition of the Free monad (over a functor, i.e. `f (Free f a) \to Free f b`) in Lean, due to termination checking. So there is no chance of mix-up with the (original) Free monad.

I will add mapM, thanks. As for your second point, I think I agree. From the beginning I was considering just calling it `Free` for the reason you stated but I figured more specificity would be good. But since this is the only sensible notion of freeness in Lean then I agree it's best to just call it `FreeM`. @eric-wieser agreed?

File: Mathlib/Control/Monad/Freer.lean (hunk 32 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Freer.lean]: good call. done

**Comment by eric-wieser** [comment]
I'm certainly in favor of `FreeM` as the name, but don't really have enough background for my vote to carry any weight;; my interest so far has only been because I'm pretty certain this is the correct generalization of #22194.

I think @digama0 is likely to have opinions on whether this can claim the `FreeM` name. If not, perhaps make the proposal on Zulip?

**Comment by quangvdao** [comment]
As mentioned in my comment in #20924 (which I made before looking at #22194 in detail), there are differences between a Free monad over a general function `f : Type* \to Type*`, and a Free monad over a polynomial functor (which is exactly the `Comp` monad in #22194 ).

The main difference of interest to me is that the latter does not raise universe level, making it possible to nest (oracle) computations, which naturally express interactive protocols (i.e. a party returns a strategy for how it would act for the remaining rounds). More technically, `PFunctor.FreeM` can itself be expressed as a `PFunctor`, e.g.
```
/-- Positions within the structure tree `(y + P).W` corresponding to the leaves (`y`-nodes).
    An element `FreePos P w` represents a path from the root of `w` to a leaf node
    that would hold a value of type `α` in `FreeM P α`. -/
inductive FreePos (P : PFunctor.{u}) : (1 + P).W → Type (max u v) where
  /-- The position corresponding to a leaf (`1`-node) in the structure tree. -/
  | here {f : PEmpty → (1 + P).W} : FreePos P (WType.mk (Sum.inl PUnit.unit) f)
  /-- A position within a child subtree `f i` of a `P` node. -/
  | there {a : P.A} {f : P.B a → (1 + P).W} (i : P.B a) (tail : FreePos P (f i)) : FreePos P (WType.mk (Sum.inr a) f)

def FreeM (P : PFunctor) : PFunctor where
  A := (1 + P).W
  B := FreePos P -- Use the new FreePos definition
```
See the textbook (https://toposinstitute.github.io/poly/poly-book.pdf) for details. It would be nice to drastically expand the theory of `PFunctor` in mathlib in the direction of this textbook; I will make some PRs in the future.

@dtumad: tagging so you're aware of this discussion

**Comment by quangvdao** [comment]
> it's ok to give `def`s the `@[simp]` attribute right?

Why do you need to though? I think it’s generally frowned upon

File: Mathlib/Control/Monad/Free.lean [hunk 35]
```diff
@@ -0,0 +1,481 @@
...
+  | .pure a => f a
+  | .liftBind op cont => .liftBind op (fun z => FreeM.bind F (cont z) f)
+
+/-- Lift an operation from the effect signature `f` into the `FreeM f` monad. -/
+def lift {F : Type u → Type v} {ι : Type u} (op : F ι) : FreeM F ι :=
+  FreeM.liftBind op FreeM.pure
+
+@[simp]
+lemma lift_def {F : Type u → Type v} {ι : Type u} (op : F ι) :
+    lift op = FreeM.liftBind op FreeM.pure := by simp [lift]
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: This looks backwards to me, I `liftBind_eq_lift_bind` should be the `simp` lemma.

File: Mathlib/Control/Monad/Free.lean [hunk 36]
```diff
@@ -0,0 +1,481 @@
...
+
+instance {F : Type u → Type v} : Monad (FreeM F) where
+  pure := FreeM.pure
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: Can you add a simp lemma that rewrites `FreeM.pure` into `Pure.pure`?

Comment (eric-wieser) [reply Mathlib/Control/Monad/Free.lean]: I think a lot of this is redoing the design of the simp lemmas from #20924, can you use that for inspiration?

File: Mathlib/Control/Monad/Free.lean [hunk 37]
```diff
@@ -0,0 +1,481 @@
...
+  · intro _ _ _ x f g; induction' x with a b op cont ih;
+    · simp only [bind, FreeM.bind]
+    · simp only [bind, FreeM.bind, ih] at *; simp [ih]
+  · intro _ _ x y; simp [Functor.map, Functor.mapConst]
+  · intro _ _ x y; simp [bind, SeqLeft.seqLeft, Pure.pure]
+  · intro _ _ x y; simp [bind, SeqRight.seqRight]
+  · intro _ _ f x; induction' x with a b op cont ih;
+    · simp [bind, FreeM.bind, Functor.map, Pure.pure, map]
+    · simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at *; simp [ih]
+  · intro _ _ f x; simp [bind, FreeM.bind, Functor.map, Seq.seq]
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: by using `apply` here you're defeating the point of `mk'`; look at some other examples of how to use it that avoid many of the subgoals.

File: Mathlib/Control/Monad/Free.lean (hunk 35 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: in that case can I put `@[simp]` on the lift definition? or is this not allowed for defs?

File: Mathlib/Control/Monad/Free.lean (hunk 36 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: > Can you add a simp lemma that rewrites `FreeM.pure` into `Pure.pure`?

added this but was left with these two linter errors:
```
-- Found 2 errors in 88 declarations (plus 314 automatically generated ones) in the current file with 15 linters

/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
#check @pure.sizeOf_spec /- Left-hand side simplifies from
  sizeOf (FreeM.pure a✝)
to
  sizeOf (pure a✝)
using
  dsimp only [@pure_eq_pure]
Try to change the left-hand side to the simplified term!
 -/
  -/
#check @pure.injEq /- Left-hand side simplifies from
  FreeM.pure a✝¹ = FreeM.pure a✝
to
  pure a✝¹ = pure a✝
using
  simp only [@pure_eq_pure]
Try to change the left-hand side to the simplified term!
 -/
```
These don't appear in my file anywhere so I'm not sure what to do with it.  I wrote `attribute [nolint simpNF] pure.sizeOf_spec pure.injEq` at the end so that it can be pushed but not sure if this is allowed/safe

Comment (quangvdao) [reply Mathlib/Control/Monad/Free.lean]: Seems like the rewrite lemma from `FreeM.pure` to `Pure.pure` shouldn't be simp?

Comment (plp127) [reply Mathlib/Control/Monad/Free.lean]: > These don't appear in my file anywhere so I'm not sure what to do with it. I wrote `attribute [nolint simpNF] pure.sizeOf_spec pure.injEq` at the end so that it can be pushed but not sure if this is allowed/safe

It's also what everyone else does so surely it's fine

**Comment by tannerduve** [comment]
@quangvdao I realized that categorically, `mapM` is exactly the unique natural transformation defined by the universal property of the free monad. I was trying to implement this as an exercise and realized that I was just reimplementing `mapM`. Neat.

So I wrote a theorem `mapM_unique` expressing the universal property, that `mapM f` is the unique interpreter extending `f` to a monad morphism from `FreeM F` into `M`.

`mapM` thus gets us a canonical interpreter for each effect functor (eg. StateF, etc.) so for each of these I showed the canonical interpreter is extensionally equivalent to the hand-written interpreter `run` that I already had for each.

File: Mathlib/Control/Monad/Free.lean [hunk 38]
```diff
@@ -0,0 +1,622 @@
...
+  bind := FreeM.bind F
+
+@[simp]
+lemma pure_eq_pure {F : Type u → Type v} {α : Type w} (a : α) :
+    (FreeM.pure a : FreeM F α) = pure a := rfl
+
+/-- The `liftBind` constructor is semantically equivalent to `(lift op) >>= cont`. -/
+lemma liftBind_eq_lift_bind {F : Type u → Type v} {ι : Type u} {α : Type u}
+    (op : F ι) (cont : ι → FreeM F α) :
+    FreeM.liftBind op cont = (lift op) >>= cont := by
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: Can you change this to 
```suggestion
    FreeM.liftBind op cont = (lift op).bind cont := by
```
since this is more universe-general?

File: Mathlib/Control/Monad/Free.lean [hunk 39]
```diff
@@ -0,0 +1,595 @@
...
+-/
+
+/-- The Free monad over a type constructor `f`.
+
+A `FreeM f a` is a tree of operations from the type constructor `f`, with leaves of type `a`.
+It has two constructors: `pure` for wrapping a value of type `a`, and `liftBind` for
+representing an operation from `f` followed by a continuation.
+
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional Free monad,
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: Is this a typo?
```suggestion
effect descriptions that can be interpreted later. Unlike the traditional free monad,
```

File: Mathlib/Control/Monad/Free.lean [hunk 40]
```diff
@@ -0,0 +1,595 @@
...
+  | liftBind {ι : Type u} (op : f ι) (cont : ι → FreeM f α) : FreeM f α
+
+universe u v w
+
+namespace FreeM
+
+/-- Map a function over a `FreeM` monad. -/
+def map {α β : Type _} (F : Type u → Type v) (f : α → β) : FreeM F α → FreeM F β :=
+fun FFa =>
+  match FFa with
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
def map {α β : Type _} (F : Type u → Type v) (f : α → β) : FreeM F α → FreeM F β
```

File: Mathlib/Control/Monad/Free.lean [hunk 41]
```diff
@@ -0,0 +1,595 @@
...
+  | .pure a => .pure (f a)
+  | .liftBind op cont => .liftBind op (fun z => FreeM.map F f (cont z))
+
+instance {F : Type u → Type v} : Functor (FreeM F) where
+  map := FreeM.map F
+
+instance {F : Type u → Type v} : LawfulFunctor (FreeM F) where
+  map_const {α β} := by
+    simp [Functor.mapConst, Functor.map]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: A lot of `simp`s an be replaced by just `rfl`.
```suggestion
  map_const := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 42]
```diff
@@ -0,0 +1,595 @@
...
+  id_map x := by
+    simp [Functor.map]
+    induction' x with a b op cont ih
+    · simp [map]
+    · simp [map, ih]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think the use of `induction'` is disouraged.
```suggestion
    induction x with
    | pure a => rfl
    | liftBind op cont ih =>
      simp [map, ih]
```

File: Mathlib/Control/Monad/Free.lean [hunk 43]
```diff
@@ -0,0 +1,595 @@
...
+  comp_map g h x := by
+    simp [Functor.map]
+    induction x
+    case pure a => simp [FreeM.map]
+    case liftBind op cont ih => simp [FreeM.map, ih]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    induction x with
    | pure a => rfl
    | liftBind op cont ih => simp [FreeM.map, ih]
```

File: Mathlib/Control/Monad/Free.lean [hunk 44]
```diff
@@ -0,0 +1,595 @@
...
+
+/-- Bind operation for the `FreeM` monad. -/
+protected def bind {a b : Type _} (F : Type u → Type v) (x : FreeM F a) (f : a → FreeM F b) :
+FreeM F b :=
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    FreeM F b :=
```

File: Mathlib/Control/Monad/Free.lean [hunk 45]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma pure_eq_pure {F : Type u → Type v} {α : Type w} (a : α) :
+    (FreeM.pure a : FreeM F α) = pure a := rfl
+
+/-- The `liftBind` constructor is semantically equivalent to `(lift op) >>= cont`. -/
+lemma liftBind_eq_lift_bind {F : Type u → Type v} {ι : Type u} {α : Type u}
+    (op : F ι) (cont : ι → FreeM F α) :
+    FreeM.liftBind op cont = (lift op) >>= cont := by
+    simp [lift, bind, FreeM.bind]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    FreeM.liftBind op cont = (lift op) >>= cont :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 46]
```diff
@@ -0,0 +1,595 @@
...
+    · simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at *; simp only [ih]
+  })
+  (id_map := by intro x y; induction' y with a b op cont ih'; all_goals {simp})
+  (pure_bind := by
+    intro α β x f
+    simp [bind, FreeM.bind])
+  (bind_assoc := by
+    intro _ _ _ x f g; induction' x with a b op cont ih;
+    · simp only [bind, FreeM.bind]
+    · simp only [bind, FreeM.bind, ih] at *; simp [ih])
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    intro _ _ _ x f g
    induction x with
    | pure a => rfl
    | liftBind op cont ih =>
      simp only [bind, FreeM.bind] at ih ⊢
      simp [ih])
```

File: Mathlib/Control/Monad/Free.lean [hunk 47]
```diff
@@ -0,0 +1,595 @@
...
+`interp : ∀ {β}, F β → M β` via the universal property of `FreeM` -/
+protected def mapM {F : Type u → Type v} {M : Type u → Type w} [Monad M] {α : Type u} :
+    FreeM F α → ({β : Type u} → F β → M β) → M α
+  | .pure a, _ => pure a
+  | .liftBind op cont, interp => interp op >>= fun result => (cont result).mapM interp
+
+@[simp]
+lemma mapM_pure {F : Type u → Type v} {M : Type u → Type w} [Monad M] {α : Type u}
+    (interp : {β : Type u} → F β → M β) (a : α) :
+    (pure a : FreeM F α).mapM interp = pure a := by simp [FreeM.mapM]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (pure a : FreeM F α).mapM interp = pure a :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 48]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma mapM_liftBind {F : Type u → Type v} {M : Type u → Type w} [Monad M] {α β : Type u}
+    (interp : {γ : Type u} → F γ → M γ) (op : F β) (cont : β → FreeM F α) :
+    (FreeM.liftBind op cont).mapM interp = interp op >>=
+    fun result => (cont result).mapM interp := by simp [FreeM.mapM]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (FreeM.liftBind op cont).mapM interp = interp op >>= fun result => (cont result).mapM interp :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 49]
```diff
@@ -0,0 +1,595 @@
...
+  get := FreeM.lift StateF.get
+  set newState := FreeM.liftBind (StateF.set newState) (fun _ => FreeM.pure PUnit.unit)
+  modifyGet f :=
+    FreeM.liftBind StateF.get (fun s =>
+      let (a, s') := f s
+      FreeM.liftBind (StateF.set s') (fun _ => FreeM.pure a))
+
+@[simp]
+lemma get_def {σ : Type u} : (get : FreeState σ σ) = FreeM.lift StateF.get := by
+simp [get, getThe, MonadStateOf.get]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
lemma get_def {σ : Type u} : (get : FreeState σ σ) = FreeM.lift StateF.get :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 50]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma set_def {σ : Type u} (s : σ) : (set s : FreeState σ PUnit) =
+    FreeM.liftBind (StateF.set s) (fun _ => FreeM.pure PUnit.unit) := by
+    simp [set, MonadStateOf.set]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    FreeM.liftBind (StateF.set s) (fun _ => FreeM.pure PUnit.unit) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 51]
```diff
@@ -0,0 +1,595 @@
...
+
+instance {σ : Type u} : MonadState σ (FreeState σ) := inferInstance
+
+lemma bind_pure {F : Type u → Type v} {α β : Type u} (a : α) (f : α → FreeM F β) :
+    (pure a >>= f) = f a := by simp only [pure_bind]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (pure a >>= f) = f a := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 52]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma bind_liftBind {F : Type u → Type v} {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+(f : β → FreeM F γ) :
+    (FreeM.liftBind op cont >>= f) = FreeM.liftBind op (fun x => cont x >>= f) := by
+    simp [bind, FreeM.bind]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
lemma bind_liftBind {F : Type u → Type v} {α β γ : Type u} (op : F α)
    (cont : α → FreeM F β) (f : β → FreeM F γ) :
    (FreeM.liftBind op cont >>= f) = FreeM.liftBind op (fun x => cont x >>= f) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 53]
```diff
@@ -0,0 +1,595 @@
...
+
+lemma map_pure {F : Type u → Type v} {α β : Type u} (f : α → β) (a : α) :
+    (f <$> pure a : FreeM F β) = FreeM.pure (f a) := by
+    simp [Functor.map, map]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (f <$> pure a : FreeM F β) = FreeM.pure (f a) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 54]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma map_liftBind {F : Type u → Type v} {α β γ : Type u} (f : β → γ) (op : F α)
+(cont : α → FreeM F β) :
+    (f <$> FreeM.liftBind op cont : FreeM F γ) = FreeM.liftBind op (fun x => f <$> cont x)
+    := by simp [Functor.map, map]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (cont : α → FreeM F β) :
    (f <$> FreeM.liftBind op cont : FreeM F γ) = FreeM.liftBind op (fun x => f <$> cont x) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 55]
```diff
@@ -0,0 +1,595 @@
...
+  | _, StateF.set s => MonadStateOf.set s
+
+/-- Convert a `FreeState` computation into a `StateM` computation. This is the canonical
+interpreter derived from `mapM`. -/
+def toStateM {σ α : Type u} (comp : FreeState σ α) : StateM σ α :=
+  comp.mapM stateInterp
+
+/-- `toStateM` is the unique interpreter extending `stateInterp`. -/
+theorem toStateM_unique {σ α : Type u} (g : FreeState σ α → StateM σ α)
+    (h : ExtendsHandler stateInterp g) : g = toStateM := (extendsHandler_iff stateInterp g).mp h
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think this is long enough to be put on its own line.
```suggestion
    (h : ExtendsHandler stateInterp g) : g = toStateM :=
  (extendsHandler_iff stateInterp g).mp h
```

File: Mathlib/Control/Monad/Free.lean [hunk 56]
```diff
@@ -0,0 +1,595 @@
...
+
+/-- Run a state computation, returning both the result and final state. -/
+def run {σ : Type u} {α : Type v} (comp : FreeState σ α) (s₀ : σ) : α × σ :=
+  match comp with
+  | .pure a => (a, s₀)
+  | .liftBind StateF.get k     => run (k s₀) s₀
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .liftBind StateF.get k => run (k s₀) s₀
```

File: Mathlib/Control/Monad/Free.lean [hunk 57]
```diff
@@ -0,0 +1,595 @@
...
+theorem toStateM_eq_run {σ α : Type u} (comp : FreeState σ α) (s₀ : σ) :
+    toStateM comp s₀ = run comp s₀ := by
+  induction' comp with a b op cont ih generalizing s₀
+  · simp [toStateM, FreeM.mapM, pure, run, StateT.pure]
+  · simp only [run, FreeM.mapM, stateInterp] at *
+    rcases op
+    · simp only [MonadStateOf.get, bind, StateT.bind, StateT.get, run] at *
+      apply ih
+    · simp only [MonadStateOf.set, bind, StateT.bind, StateT.set, run, PUnit.unit] at *
+      apply ih
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  induction comp generalizing s₀ with
  | pure a => rfl
  | liftBind op cont ih =>
    cases op <;> apply ih
```

File: Mathlib/Control/Monad/Free.lean [hunk 58]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_pure {σ : Type u} {α : Type v} (a : α) (s₀ : σ) :
+    run (pure a : FreeState σ α) s₀ = (a, s₀) := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (pure a : FreeState σ α) s₀ = (a, s₀) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 59]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    run (.liftBind StateF.get k) s₀ = run (k s₀) s₀ := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (.liftBind StateF.get k) s₀ = run (k s₀) s₀ := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 60]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    run (.liftBind (StateF.set s') k) s₀ = run (k PUnit.unit) s' := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (.liftBind (StateF.set s') k) s₀ = run (k PUnit.unit) s' := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 61]
```diff
@@ -0,0 +1,595 @@
...
+
+/-- Run a state computation, returning only the result. -/
+def evalState {σ : Type u} {α : Type v} (c : FreeState σ α) (s₀ : σ) : α :=
+  (run c s₀).1
+
+@[simp]
+lemma evalState_pure {σ : Type u} {α : Type v} (a : α) (s₀ : σ) :
+    evalState (pure a : FreeState σ α) s₀ = a := by simp [evalState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    evalState (pure a : FreeState σ α) s₀ = a := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 62]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma evalState_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    evalState (.liftBind StateF.get k) s₀ = evalState (k s₀) s₀ := by simp [evalState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    evalState (.liftBind StateF.get k) s₀ = evalState (k s₀) s₀ := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 63]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma evalState_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    evalState (.liftBind (StateF.set s') k) s₀ = evalState (k PUnit.unit) s' := by simp [evalState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    evalState (.liftBind (StateF.set s') k) s₀ = evalState (k PUnit.unit) s' := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 64]
```diff
@@ -0,0 +1,595 @@
...
+
+/-- Run a state computation, returning only the final state. -/
+def execState {σ : Type u} {α : Type v} (c : FreeState σ α) (s₀ : σ) : σ :=
+  (run c s₀).2
+
+@[simp]
+lemma execState_pure {σ : Type u} {α : Type v} (a : α) (s₀ : σ) :
+    execState (pure a : FreeState σ α) s₀ = s₀ := by simp [execState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    execState (pure a : FreeState σ α) s₀ = s₀ := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 65]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma execState_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    execState (.liftBind StateF.get k) s₀ = execState (k s₀) s₀ := by simp [execState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    execState (.liftBind StateF.get k) s₀ = execState (k s₀) s₀ := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 66]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma execState_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    execState (.liftBind (StateF.set s') k) s₀ = execState (k PUnit.unit) s' := by simp [execState]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    execState (.liftBind (StateF.set s') k) s₀ = execState (k PUnit.unit) s' := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 67]
```diff
@@ -0,0 +1,595 @@
...
+  | _, WriterF.tell w => MonadWriter.tell w
+
+/-- Convert a `FreeWriter` computation into a `WriterT` computation. This is the canonical
+interpreter derived from `mapM`. -/
+def toWriterT {ω α : Type u} [Monoid ω] (comp : FreeWriter ω α) : WriterT ω Id α :=
+  comp.mapM writerInterp
+
+/-- `toWriterT` is the unique interpreter extending `writerInterp`. -/
+theorem toWriterT_unique {ω α : Type u} [Monoid ω] (g : FreeWriter ω α → WriterT ω Id α)
+    (h : ExtendsHandler writerInterp g) : g = toWriterT := (extendsHandler_iff writerInterp g).mp h
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think this is long enough to be put on its own line.
```suggestion
    (h : ExtendsHandler writerInterp g) : g = toWriterT :=
  (extendsHandler_iff writerInterp g).mp h
```

File: Mathlib/Control/Monad/Free.lean [hunk 68]
```diff
@@ -0,0 +1,595 @@
...
+
+/--
+Writes a log entry. This creates an effectful node in the computation tree.
+-/
+def tell {ω : Type u} (w : ω) : FreeWriter ω PUnit :=
+  FreeM.lift (WriterF.tell w)
+
+@[simp]
+lemma tell_def {ω : Type u} (w : ω) :
+    tell w = FreeM.lift (WriterF.tell w) := by simp [tell]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    tell w = FreeM.lift (WriterF.tell w) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 69]
```diff
@@ -0,0 +1,595 @@
...
+@[simp]
+theorem toWriterT_eq_run {ω : Type u} [Monoid ω] {α} (comp : FreeWriter ω α) :
+    toWriterT comp = run comp := by
+  induction' comp with a b op cont ih
+  · simp only [toWriterT, FreeM.mapM, pure, run, WriterT.run]
+  · simp only [toWriterT, FreeM.mapM] at *
+    rcases op
+    · simp only [run] at *
+      rw [←ih PUnit.unit]
+      congr
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  induction comp with
  | pure a => rfl
  | liftBind op cont ih =>
    cases op
    rw [run, ← ih PUnit.unit]
    rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 70]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_pure {ω : Type u} [Monoid ω] {α} (a : α) :
+    run (pure a : FreeWriter ω α) = (a, 1) := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (pure a : FreeWriter ω α) = (a, 1) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 71]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_liftBind_tell {ω : Type u} [Monoid ω] {α} (w : ω) (k : PUnit → FreeWriter ω α) :
+    run (.liftBind (WriterF.tell w) k) =
+    let (a, w') := run (k PUnit.unit)
+    (a, w * w') := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: Having both `let (a, w') := run (k PUnit.unit)` and `(a, w * w') := by simp [run]` was confusing, since the two `:=` meant different things. I suggest you break it up a bit with some parentheses.
```suggestion
    run (.liftBind (WriterF.tell w) k) = (let (a, w') := run (k PUnit.unit); (a, w * w')) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 72]
```diff
@@ -0,0 +1,595 @@
...
+def listen {ω : Type u} [Monoid ω] {α : Type v} : FreeWriter ω α → FreeWriter ω (α × ω)
+  | .pure a => .pure (a, 1)
+  | .liftBind (WriterF.tell w) k =>
+      FreeM.liftBind (WriterF.tell w) fun _ =>
+        listen (k PUnit.unit) >>= fun (a, w') =>
+          pure (a, w * w')
+
+@[simp]
+lemma listen_pure {ω : Type u} [Monoid ω] {α} (a : α) :
+    listen (pure a : FreeWriter ω α) = .pure (a, 1) := by simp [listen]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    listen (pure a : FreeWriter ω α) = .pure (a, 1) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 73]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma listen_liftBind_tell {ω : Type u} [Monoid ω] {α} (w : ω)
+    (k : PUnit → FreeWriter ω α) :
+    listen (.liftBind (WriterF.tell w) k) =
+      FreeM.liftBind (WriterF.tell w) (fun _ =>
+        listen (k PUnit.unit) >>= fun (a, w') =>
+          pure (a, w * w')) := by
+  simp [listen]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
          pure (a, w * w')) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 74]
```diff
@@ -0,0 +1,595 @@
...
+-/
+def pass {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) : FreeWriter ω α :=
+  let ((a, f), w) := run m
+  FreeM.liftBind (WriterF.tell (f w)) (fun _ => .pure a)
+
+@[simp]
+lemma pass_def {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) :
+    pass m =
+    let ((a, f), w) := run m
+    FreeM.liftBind (WriterF.tell (f w)) (fun _ => .pure a) := by simp [pass]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think you should either put the conclusion all on one line, or indent the two lines after the `=`, to make it clear what is going on here.
```suggestion
    pass m = (let ((a, f), w) := run m; FreeM.liftBind (WriterF.tell (f w)) (fun _ => .pure a)) :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 75]
```diff
@@ -0,0 +1,595 @@
...
+
+instance {ω : Type u} [Monoid ω] : MonadWriter ω (FreeWriter ω) where
+  tell w := FreeM.liftBind (WriterF.tell w) (fun _ => .pure PUnit.unit)
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: You are repeating the `tell` function again.
```suggestion
  tell := tell
```

File: Mathlib/Control/Monad/Free.lean [hunk 76]
```diff
@@ -0,0 +1,595 @@
...
+abbrev FreeCont (r : Type u) := FreeM (ContF r)
+
+namespace FreeCont
+
+instance {r : Type u} : Monad (FreeCont r) := inferInstance
+instance {r : Type u} : LawfulMonad (FreeCont r) := inferInstance
+
+/-- Interpret `ContF r` operations into `ContT r Id`. -/
+def contInterp {r : Type u} {α : Type v} : ContF r α → ContT r Id α
+  | ContF.callCC g => fun k => g (fun a => k a)
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: When converting between `r` and `Id r`, you should use `pure : r → Id r` and `Id.run : Id r → r`.
```suggestion
  | ContF.callCC g => fun k => pure (g (fun a => (k a).run))
```

File: Mathlib/Control/Monad/Free.lean [hunk 77]
```diff
@@ -0,0 +1,595 @@
...
+
+/-- Convert a `FreeCont` computation into a `ContT` computation. This is the canonical
+interpreter derived from `mapM`. -/
+def toContT {r α : Type u} (comp : FreeCont r α) : ContT r Id α :=
+  comp.mapM contInterp
+
+/-- `toContT` is the unique interpreter extending `contInterp`. -/
+theorem toContT_unique {r α : Type u} (g : FreeCont r α → ContT r Id α)
+    (h : ExtendsHandler contInterp g) : g = toContT := (extendsHandler_iff contInterp g).mp h
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think this is long enough that it could be put on its own line.
```suggestion
    (h : ExtendsHandler contInterp g) : g = toContT :=
  (extendsHandler_iff contInterp g).mp h
```

File: Mathlib/Control/Monad/Free.lean [hunk 78]
```diff
@@ -0,0 +1,595 @@
...
+theorem toContT_eq_run {r α : Type u} (comp : FreeCont r α) (k : α → r) :
+    toContT comp k = run comp k := by
+  induction' comp with a b op cont ih
+  · simp [toContT, FreeM.mapM, pure, run]
+  · simp only [toContT, FreeM.mapM] at *
+    rcases op
+    · simp only [run, bind] at *
+      congr
+      funext x
+      apply ih
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  induction comp with
  | pure a => rfl
  | liftBind op cont ih =>
    simp only [toContT, FreeM.mapM]
    cases op
    simp only [run, bind]
    congr
    funext x
    apply ih
```

File: Mathlib/Control/Monad/Free.lean [hunk 79]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_pure {r : Type u} {α : Type v} (a : α) (k : α → r) :
+    run (pure a : FreeCont r α) k = k a := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (pure a : FreeCont r α) k = k a := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 80]
```diff
@@ -0,0 +1,595 @@
...
+
+@[simp]
+lemma run_liftBind_callCC {r : Type u} {α β : Type v} (g : (α → r) → r)
+(cont : α → FreeCont r β) (k : β → r) :
+    run (.liftBind (ContF.callCC g) cont) k = g (fun a => run (cont a) k) := by simp [run]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (.liftBind (ContF.callCC g) cont) k = g (fun a => run (cont a) k) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 81]
```diff
@@ -0,0 +1,595 @@
...
+  FreeM.liftBind (ContF.callCC (fun k =>
+    run (f ⟨fun x => FreeM.liftBind (ContF.callCC (fun _ => k x)) FreeM.pure⟩) k
+  )) FreeM.pure
+
+@[simp]
+lemma callCC_def {r : Type u} {α β : Type v} (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) :
+    callCC f =
+    FreeM.liftBind (ContF.callCC (fun k =>
+      run (f ⟨fun x => FreeM.liftBind (ContF.callCC (fun _ => k x)) FreeM.pure⟩) k
+    )) FreeM.pure := by simp [callCC]
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: I think this should go on its own line, to visually separate the theorem statement from the proof.
```suggestion
    )) FreeM.pure :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 82]
```diff
@@ -0,0 +1,595 @@
...
+  (bind_pure_comp := by {
+    intro _ _ f x;
+    induction' x with a b op cont ih
+    · simp only [bind, FreeM.bind, Functor.map, Pure.pure, map]
+    · simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at *; simp only [ih]
+  })
+  (id_map := by intro x y; induction' y with a b op cont ih'; all_goals {simp})
+  (pure_bind := by
+    intro α β x f
+    simp [bind, FreeM.bind])
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  (pure_bind := by intros; rfl)
```

File: Mathlib/Control/Monad/Free.lean [hunk 83]
```diff
@@ -0,0 +1,595 @@
...
+    simp [lift, bind, FreeM.bind]
+
+instance {F : Type u → Type v} : LawfulMonad (FreeM F) := LawfulMonad.mk'
+  (bind_pure_comp := by {
+    intro _ _ f x;
+    induction' x with a b op cont ih
+    · simp only [bind, FreeM.bind, Functor.map, Pure.pure, map]
+    · simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at *; simp only [ih]
+  })
+  (id_map := by intro x y; induction' y with a b op cont ih'; all_goals {simp})
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: You can reuse the proof from the `LawfulFunctor` instance:
```suggestion
  (id_map := id_map)
```

File: Mathlib/Control/Monad/Free.lean [hunk 84]
```diff
@@ -0,0 +1,595 @@
...
+    FreeM.liftBind op cont = (lift op) >>= cont := by
+    simp [lift, bind, FreeM.bind]
+
+instance {F : Type u → Type v} : LawfulMonad (FreeM F) := LawfulMonad.mk'
+  (bind_pure_comp := by {
+    intro _ _ f x;
+    induction' x with a b op cont ih
+    · simp only [bind, FreeM.bind, Functor.map, Pure.pure, map]
+    · simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at *; simp only [ih]
+  })
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  (bind_pure_comp := by
    intro _ _ f x
    induction x with
    | pure a => rfl
    | liftBind op cont ih =>
      simp only [Functor.map, bind, FreeM.bind, map, Pure.pure, map] at ih ⊢
      simp only [ih])
```

File: Mathlib/Control/Monad/Free.lean [hunk 85]
```diff
@@ -0,0 +1,595 @@
...
+
+/--
+The universal property of the free monad `FreeM`. That is, `mapM f` is the unique interpreter that
+extends the effect handler `f` to interpret `FreeM F` computations in monad `M`.
+-/
+theorem extendsHandler_iff
+{F : Type u → Type v} {m : Type u → Type w} [Monad m] {α : Type u}
+    (f : {ι : Type u} → F ι → m ι)
+    (g : FreeM F α → m α) :
+    ExtendsHandler f g ↔ g = (·.mapM f) := by
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: If you use `f` here, you get weird terms like `fun {ι} => f` in the theorem statement, and using `@f` will suppress this.
```suggestion
    (f : {ι : Type u} → F ι → m ι) (g : FreeM F α → m α) :
    ExtendsHandler @f g ↔ g = (·.mapM @f) := by
```

File: Mathlib/Control/Monad/Free.lean [hunk 86]
```diff
@@ -0,0 +1,595 @@
...
+      apply ih x
+  · intro h
+    constructor
+    · intro a
+      simp [h]
+    · intro ι op k
+      simp only [FreeM.mapM, bind, FreeM.bind]
+      rw [h]
+      congr 1
+
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: This proof can be shortened a lot.
```suggestion
  refine ⟨fun h => funext fun x => ?_, fun h => ?_⟩
  · induction x with
    | pure a => exact h.1 a
    | liftBind op cont ih =>
      rw [mapM_liftBind, h.2]
      simp [ih]
  · subst h
    exact ⟨fun _ => rfl, fun _ _ => rfl⟩
```

File: Mathlib/Control/Monad/Free.lean [hunk 87]
```diff
@@ -0,0 +1,595 @@
...
+instance {σ : Type u} : Monad (FreeState σ) := inferInstance
+instance {σ : Type u} : LawfulMonad (FreeState σ) := inferInstance
+
+instance {σ : Type u} : MonadStateOf σ (FreeState σ) where
+  get := FreeM.lift StateF.get
+  set newState := FreeM.liftBind (StateF.set newState) (fun _ => FreeM.pure PUnit.unit)
+  modifyGet f :=
+    FreeM.liftBind StateF.get (fun s =>
+      let (a, s') := f s
+      FreeM.liftBind (StateF.set s') (fun _ => FreeM.pure a))
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: Does this use the state linearly?

File: Mathlib/Control/Monad/Free.lean [hunk 88]
```diff
@@ -0,0 +1,595 @@
...
+inductive FreeM.{u, v, w} (f : Type u → Type v) (α : Type w) where
+  | protected pure : α → FreeM f α
+  | liftBind {ι : Type u} (op : f ι) (cont : ι → FreeM f α) : FreeM f α
+
+universe u v w
+
+namespace FreeM
+
+/-- Map a function over a `FreeM` monad. -/
+def map {α β : Type _} (F : Type u → Type v) (f : α → β) : FreeM F α → FreeM F β :=
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: Should `F` be implicit here?

File: Mathlib/Control/Monad/Free.lean [hunk 89]
```diff
@@ -0,0 +1,595 @@
...
+    FreeM.liftBind (ContF.callCC (fun k =>
+      run (f ⟨fun x => FreeM.liftBind (ContF.callCC (fun _ => k x)) FreeM.pure⟩) k
+    )) FreeM.pure := by simp [callCC]
+
+instance {r : Type u} : MonadCont (FreeCont r) where
+  callCC := FreeCont.callCC
+
+end FreeCont
+
+attribute [nolint simpNF] pure.sizeOf_spec pure.injEq
```
Comment (plp127) [inline Mathlib/Control/Monad/Free.lean]: Can you move this up next to the definition of `FreeM`, and add an explanation there too?

**Review by plp127 — COMMENTED** [review]
Thanks!
Just a few minor comments.

File: Mathlib/Control/Monad/Free.lean (hunk 88 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: yes. done.

File: Mathlib/Control/Monad/Free.lean (hunk 87 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: i believe its not, because get can be called multiple times to access the same state, but afaik this is a standard implementation.

File: Mathlib/Control/Monad/Free.lean (hunk 89 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: done

File: Mathlib/Control/Monad/Free.lean (hunk 81 above)
Comment (YaelDillies) [reply Mathlib/Control/Monad/Free.lean]: That's a style preference. I like it to be on the same line

**Comment by tannerduve** [comment]
> Thanks! Just a few minor comments.

Thanks for your careful review! Not sure why I missed most of them when you first commented, but I just addressed the rest of them. Looks like my write access has not yet been removed (see: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/523754489). But hopefully this can get merged soon. Otherwise I'll migrate to my fork and hopefully we can further review there.

File: Mathlib/Control/Monad/Free.lean [hunk 90]
```diff
@@ -0,0 +1,576 @@
+/-
+Copyright (c) 2025 Tanner Duve. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tanner Duve
+-/
+import Mathlib.Control.Monad.Writer
+import Mathlib.Control.Monad.Cont
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Please keep imports sorted
```suggestion
import Mathlib.Control.Monad.Cont
import Mathlib.Control.Monad.Writer
```

File: Mathlib/Control/Monad/Free.lean [hunk 91]
```diff
@@ -0,0 +1,576 @@
...
+in `M` that respects the effect semantics given by `f`. This unique interpreter is `mapM f`, which
+acts as the canonical **fold** for free monads.
+
+## Implementation
+
+To execute or interpret these computations, we provide two approaches:
+1. **Hand-written interpreters** (`FreeState.run`, `FreeWriter.run`, `FreeCont.run`) that directly
+pattern-match on the tree structure
+2. **Canonical interpreters** (`FreeState.toStateM`, `FreeWriter.toWriterT`, `FreeCont.toContT`)
+derived from the universal property via `mapM`
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  pattern-match on the tree structure
2. **Canonical interpreters** (`FreeState.toStateM`, `FreeWriter.toWriterT`, `FreeCont.toContT`)
  derived from the universal property via `mapM`
```

File: Mathlib/Control/Monad/Free.lean [hunk 92]
```diff
@@ -0,0 +1,576 @@
...
+We prove that these approaches are equivalent, demonstrating that the implementation aligns with
+the theory. We also provide uniqueness theorems for the canonical interpreters, which follow from
+the universal property.
+
+## Main Definitions
+
+- `FreeM`: The free monad construction
+- `mapM`: The canonical fold/interpreter satisfying the universal property
+- `FreeState`, `FreeWriter`, `FreeCont`: Specific effect monads with both hand-written and
+canonical interpreters
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  canonical interpreters
```

File: Mathlib/Control/Monad/Free.lean [hunk 93]
```diff
@@ -0,0 +1,576 @@
...
+This construction provides a free monad for any type constructor `f`, allowing for composable
+effect descriptions that can be interpreted later. Unlike the traditional free monad,
+this does not require `f` to be a functor. -/
+inductive FreeM.{u, v, w} (f : Type u → Type v) (α : Type w) where
+  | protected pure : α → FreeM f α
+  | liftBind {ι : Type u} (op : f ι) (cont : ι → FreeM f α) : FreeM f α
+
+-- Disable simpNF lints for auto-generated constructor lemmas, as they don't follow simp normal
+-- form patterns.
+attribute [nolint simpNF] FreeM.pure.sizeOf_spec FreeM.pure.injEq
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: What lemmas go against them? I think I know the answer, but can you please mention them?

File: Mathlib/Control/Monad/Free.lean [hunk 94]
```diff
@@ -0,0 +1,576 @@
...
+
+universe u v w
+
+namespace FreeM
+
+/-- Map a function over a `FreeM` monad. -/
+def map {α β : Type _} {F : Type u → Type v} (f : α → β) : FreeM F α → FreeM F β
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Can you please avoid using `Type _`? This introduces types metavariables, which have poor performance

File: Mathlib/Control/Monad/Free.lean [hunk 95]
```diff
@@ -0,0 +1,576 @@
...
+  (pure_bind := by intros; rfl)
+  (bind_assoc := by
+    intro _ _ _ x f g
+    induction x with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      simp only [bind, FreeM.bind] at ih ⊢
+      simp [ih])
+
+
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion

```

File: Mathlib/Control/Monad/Free.lean [hunk 96]
```diff
@@ -0,0 +1,576 @@
...
+  })
+  (id_map := id_map)
+  (pure_bind := by intros; rfl)
+  (bind_assoc := by
+    intro _ _ _ x f g
+    induction x with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      simp only [bind, FreeM.bind] at ih ⊢
+      simp [ih])
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Mathlib style would rather be
```suggestion
instance {F : Type u → Type v} : LawfulMonad (FreeM F) := by
  refine .mk' (id_map := id_map) (pure_bind := by intros; rfl) (bind_pure_comp := ?_)
    (bind_assoc := ?_)
  · intro _ _ _ x f g
    induction x with
    | pure a => rfl
    | liftBind op cont ih =>
      simp only [bind, FreeM.bind] at ih ⊢
      simp [ih]
  · intro _ _ f x;
    induction x with
    | pure a => rfl
    | liftBind op cont ih =>
      simp only [bind, FreeM.bind, Functor.map, Pure.pure, map] at *
      simp only [ih]
```

File: Mathlib/Control/Monad/Free.lean [hunk 97]
```diff
@@ -0,0 +1,576 @@
...
+  (∀ a, g (pure a) = pure a) ∧
+  (∀ {ι} (op : F ι) (k : ι → FreeM F α),
+    g (FreeM.liftBind op k) = f op >>= fun x => g (k x))
+
+/--
+The universal property of the free monad `FreeM`. That is, `mapM f` is the unique interpreter that
+extends the effect handler `f` to interpret `FreeM F` computations in monad `M`.
+-/
+theorem extendsHandler_iff
+{F : Type u → Type v} {m : Type u → Type w} [Monad m] {α : Type u}
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    {F : Type u → Type v} {m : Type u → Type w} [Monad m] {α : Type u}
```

File: Mathlib/Control/Monad/Free.lean [hunk 98]
```diff
@@ -0,0 +1,576 @@
...
+    (pure a >>= f) = f a := by rfl
+
+@[simp]
+lemma bind_liftBind {F : Type u → Type v} {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+(f : β → FreeM F γ) :
+    (FreeM.liftBind op cont >>= f) = FreeM.liftBind op (fun x => cont x >>= f) := by rfl
+
+lemma map_pure {F : Type u → Type v} {α β : Type u} (f : α → β) (a : α) :
+    (f <$> pure a : FreeM F β) = FreeM.pure (f a) := by
+    rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (f <$> pure a : FreeM F β) = FreeM.pure (f a) := rfl
```
Same everywhere else

File: Mathlib/Control/Monad/Free.lean [hunk 99]
```diff
@@ -0,0 +1,576 @@
...
+instance {σ : Type u} : MonadStateOf σ (FreeState σ) where
+  get := FreeM.lift StateF.get
+  set newState := FreeM.liftBind (StateF.set newState) (fun _ => FreeM.pure PUnit.unit)
+  modifyGet f :=
+    FreeM.liftBind StateF.get (fun s =>
+      let (a, s') := f s
+      FreeM.liftBind (StateF.set s') (fun _ => FreeM.pure a))
+
+@[simp]
+lemma get_def {σ : Type u} : (get : FreeState σ σ) = FreeM.lift StateF.get := by rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
lemma get_def {σ : Type u} : (get : FreeState σ σ) = .lift .get := by rfl
```
Same everywhere else

File: Mathlib/Control/Monad/Free.lean [hunk 100]
```diff
@@ -0,0 +1,576 @@
...
+The canonical interpreter `toStateM` derived from `mapM` agrees with the hand-written
+recursive interpreter `run` for `FreeState`.
+-/
+@[simp]
+theorem toStateM_eq_run {σ α : Type u} (comp : FreeState σ α) (s₀ : σ) :
+    toStateM comp s₀ = run comp s₀ := by
+    induction comp generalizing s₀ with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      cases op <;> apply ih
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  induction comp generalizing s₀ with
  | pure a => rfl
  | liftBind op cont ih =>
    cases op <;> apply ih
```

File: Mathlib/Control/Monad/Free.lean [hunk 101]
```diff
@@ -0,0 +1,576 @@
...
+@[simp]
+lemma evalState_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    evalState (.liftBind StateF.get k) s₀ = evalState (k s₀) s₀ := by rfl
+
+@[simp]
+lemma evalState_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    evalState (.liftBind (StateF.set s') k) s₀ = evalState (k PUnit.unit) s' := by rfl
+
+/-- Run a state computation, returning only the final state. -/
+def execState {σ : Type u} {α : Type v} (c : FreeState σ α) (s₀ : σ) : σ :=
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: I think the convention in core Lean is to call this `run` rather than `exec`?

File: Mathlib/Control/Monad/Free.lean [hunk 102]
```diff
@@ -0,0 +1,576 @@
...
+before re-emission.
+-/
+def pass {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) : FreeWriter ω α :=
+  let ((a, f), w) := run m
+  FreeM.liftBind (WriterF.tell (f w)) (fun _ => .pure a)
+
+@[simp]
+lemma pass_def {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) :
+    pass m = (let ((a, f), w) := run m; FreeM.liftBind (WriterF.tell (f w)) (fun _ => .pure a)) :=
+    rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 103]
```diff
@@ -0,0 +1,576 @@
...
+
+/--
+Execute a writer computation, returning only the accumulated log and discarding the result.
+-/
+def exec {ω : Type u} {α : Type v} [Monoid ω] (comp : FreeWriter ω α) : ω :=
+  (run comp).2
+
+end FreeWriter
+
+
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion

```

**Review by YaelDillies — COMMENTED** [review]
Thank you for your PR!

Mathlib is very much *not* geared towards computer-science applications (in fact there was a time where we were considering deleting the whole `Control` folder), therefore I am not sure how pertinent it is for this PR to be merged.

Here are a few questions to think about:
* What applications are there for this code? Is any within of those applications within mathematics?
* Can/should mathematicians be maintaining this code?
* Is [Batteries](https://github.com/leanprover-community/batteries) a better fit?

Regardless, I am happy to review your code to bring it to the mathlib standard. It is 90% of the way there already (congratulations!)

**Comment by tannerduve** [comment]
> Thank you for your PR!
> 
> Mathlib is very much _not_ geared towards computer-science applications (in fact there was a time where we were considering deleting the whole `Control` folder), therefore I am not sure how pertinent it is for this PR to be merged.
> 
> Here are a few questions to think about:
> 
> * What applications are there for this code? Is any within of those applications within mathematics?
> * Can/should mathematicians be maintaining this code?
> * Is [Batteries](https://github.com/leanprover-community/batteries) a better fit?
> 
> Regardless, I am happy to review your code to bring it to the mathlib standard. It is 90% of the way there already (congratulations!)

Hey, I really appreciate the detailed review. This is a good point, and when I decided to write this code I had the same thing in mind, but ultimately decided to PR to Mathlib when I realized `Writer` and `Cont` were already in Mathlib (unaware that getting rid of them had been discusses). 

As for mathematical applications, some have been discussed in this thread, although these are at the fuzzy line between math and CS. PR #22194 works on query complexity and doesn't explicitly mention monads but this free monad is essentially a generalization of what has been done there. @quangvdao uses free monads for [formalizing cryptographic protocols ](https://github.com/dtumad/VCV-io/tree/master) in [this file](https://github.com/dtumad/VCV-io/blob/master/ToMathlib/Control/FreeMonad.lean). Further, one can explore this purely categorically by using `abbrev TypeMonad {F : Type u → Type v} := CategoryTheory.ofTypeMonad (FreeM F)` to get a free monad on the category of types.

I think this is worth a Zulip discussion so I will create one and see what others think

**Comment by YaelDillies** [comment]
A Zulip discussion sounds like a great next step. 🙏

File: Mathlib/Control/Monad/Free.lean [hunk 104]
```diff
@@ -0,0 +1,577 @@
...
+  | .pure a => .pure (f a)
+  | .liftBind op cont => .liftBind op (fun z => FreeM.map f (cont z))
+
+instance {F : Type u → Type v} : Functor (FreeM F) where
+  map := .map
+
+instance {F : Type u → Type v} : LawfulFunctor (FreeM F) where
+  map_const := rfl
+  id_map x := by
+    simp [Functor.map]
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: This `simp` is non-terminal; and should be squeezed to `simp only`, or changed to `dsimp`.

File: Mathlib/Control/Monad/Free.lean [hunk 105]
```diff
@@ -0,0 +1,577 @@
...
+    induction x with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      simp [map, ih]
+  comp_map g h x := by
+    simp [Functor.map]
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: Also non-terminal

File: Mathlib/Control/Monad/Free.lean [hunk 106]
```diff
@@ -0,0 +1,577 @@
...
+    induction x with
+    | pure a => rfl
+    | liftBind op cont ih => simp [FreeM.map, ih]
+
+/-- Bind operation for the `FreeM` monad. -/
+protected def bind {a b : Type w} {F : Type u → Type v} (x : FreeM F a) (f : a → FreeM F b) :
+  FreeM F b :=
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: style: statements are indented four spaces
```suggestion
    FreeM F b :=
```

File: Mathlib/Control/Monad/Free.lean [hunk 107]
```diff
@@ -0,0 +1,577 @@
...
+  match x with
+  | .pure a => f a
+  | .liftBind op cont => .liftBind op (fun z => FreeM.bind  (cont z) f)
+
+/-- Lift an operation from the effect signature `f` into the `FreeM f` monad. -/
+@[simp]
+def lift {F : Type u → Type v} {ι : Type u} (op : F ι) : FreeM F ι :=
+  .liftBind op FreeM.pure
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: I'm pretty sure we want to make `lift` the simp-normal form; `liftBind` is an implementation detail to fit within lean's inductive types.

File: Mathlib/Control/Monad/Free.lean [hunk 108]
```diff
@@ -0,0 +1,577 @@
...
+
+instance {F : Type u → Type v} : Monad (FreeM F) where
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: Can you add `variable {F : Type u → Type v}` to avoid repeating this every time?

File: Mathlib/Control/Monad/Free.lean [hunk 109]
```diff
@@ -0,0 +1,577 @@
...
+    (.pure a : FreeM F α) = pure a := rfl
+
+/-- The `liftBind` constructor is semantically equivalent to `(lift op) >>= cont`. -/
+lemma liftBind_eq_lift_bind {F : Type u → Type v} {ι : Type u} {α : Type u}
+    (op : F ι) (cont : ι → FreeM F α) :
+    .liftBind op cont = (lift op) >>= cont := by rfl
+
+instance {F : Type u → Type v} : LawfulMonad (FreeM F) := LawfulMonad.mk'
+  (bind_pure_comp := by {
+    intro _ _ f x;
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: `{` is pretty unidiomatic; better as
```suggestion
  (bind_pure_comp := fun _ _ f x => by
```
what made you use the `{}` syntax in the first place?

File: Mathlib/Control/Monad/Free.lean [hunk 110]
```diff
@@ -0,0 +1,577 @@
...
+
+
+/--
+Interpret a `FreeM f` computation into any monad `m` by providing an interpretation
+function for the effect signature `f`.
+
+This function defines the *canonical interpreter* from the free monad `FreeM f` into the target
+monad `m`. It is the unique monad morphism that extends the effect handler
+`interp : ∀ {β}, F β → M β` via the universal property of `FreeM` -/
+protected def mapM {F : Type u → Type v} {M : Type u → Type w} [Monad M] {α : Type u} :
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: This looks more like a `liftM` to me, `mapM` usually takes a `C X` and an `f : X -> m Y` and produces an `m (C Y)`.

File: Mathlib/Control/Monad/Free.lean [hunk 111]
```diff
@@ -0,0 +1,577 @@
...
+    FreeM F α → ({β : Type u} → F β → M β) → M α
+  | .pure a, _ => pure a
+  | .liftBind op cont, interp => interp op >>= fun result => (cont result).mapM interp
+
+@[simp]
+lemma mapM_pure {F : Type u → Type v} {M : Type u → Type w} [Monad M] {α : Type u}
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: You should add a `mapM_bind` lemma too.

File: Mathlib/Control/Monad/Free.lean (hunk 109 above)
Comment (YaelDillies) [reply Mathlib/Control/Monad/Free.lean]: See also https://github.com/leanprover-community/mathlib4/pull/25491#discussion_r2146802389

File: Mathlib/Control/Monad/Free.lean (hunk 107 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: made all the other changes. the issue im having here is that when I make `lift` the simp nf, my tests in `freemonad.lean` are no longer proven by `by simp`, because the proof involves simplifying the `lift` definition. could I maybe use `@[reducible]` on the `lift` definition? or make it an `abbrev`?

Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: I think it makes sense to make it `abbrev`. I'll push this for now but lmk if I should try another way.

Comment (eric-wieser) [reply Mathlib/Control/Monad/Free.lean]: Ah, I just pushed a version that fixes this. Hope I haven't created conflicts that are too bad...

Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: went thru and fixed the remaining simp nf lint errors but same issue in the test file, `by simp` doesn't close the goal

Comment (eric-wieser) [reply Mathlib/Control/Monad/Free.lean]: Maybe this isn't clear cut as I thought it is; the two options here are:
* Put things into the standard form for monads, expressed in terms of `bind` and `lift`. This is how I expect programs will be written using `FreeM`. This had the advantage of printing nicely with `do` notation.
* Put things into the normal form for `FreeM`, such that `bind` is collapsed with `lift`. This has the advantage that it more closely resembles the actual computation tree, and needs slightly fewer API lemmas.

Perhaps @digama0 has an opinion? It might be worth asking on zulip.

File: Mathlib/Control/Monad/Free.lean [hunk 112]
```diff
@@ -0,0 +1,601 @@
...
+- `g (liftBind op k) = f op >>= fun x => g (k x)`
+-/
+def ExtendsHandler
+    {M : Type u → Type w} [Monad M] {α : Type u}
+    (f : {ι : Type u} → F ι → M ι)
+    (g : FreeM F α → M α) : Prop :=
+  (∀ a, g (pure a) = pure a) ∧
+  (∀ {ι} (op : F ι) (k : ι → FreeM F α),
+    g (liftBind op k) = f op >>= fun x => g (k x))
+
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: This probably works better as a two-field structure, with `apply_pure` and `apply_liftBind` as fields.

File: Mathlib/Control/Monad/Free.lean (hunk 107 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: I ended up with a working version following the second option. Just pushed

File: Mathlib/Control/Monad/Free.lean [hunk 113]
```diff
@@ -0,0 +1,609 @@
...
+  | protected pure : α → FreeM f α
+  | liftBind {ι : Type u} (op : f ι) (cont : ι → FreeM f α) : FreeM f α
+
+/-
+Disable simpNF lints for auto-generated constructor lemmas, as they don't follow simp normal
+form patterns. The LHS of these lemmas use `FreeM.pure` which simplifies to `pure` via
+`pure_eq_pure`.
+-/
+attribute [nolint simpNF] FreeM.pure.sizeOf_spec
+FreeM.pure.injEq FreeM.liftBind.sizeOf_spec FreeM.liftBind.injEq
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  FreeM.pure.injEq FreeM.liftBind.sizeOf_spec FreeM.liftBind.injEq
```

File: Mathlib/Control/Monad/Free.lean [hunk 114]
```diff
@@ -0,0 +1,609 @@
...
+
+universe u v w w' w''
+
+namespace FreeM
+
+variable {F : Type u → Type v} {ι : Type u} {α : Type w} {β : Type w'} {γ : Type w''}
+
+
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion

```

File: Mathlib/Control/Monad/Free.lean [hunk 115]
```diff
@@ -0,0 +1,609 @@
...
+theorem toContT_eq_run {r α : Type u} (comp : FreeCont r α) (k : α → r) :
+    toContT comp k = run comp k := by
+    induction comp with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      simp only [toContT, FreeM.liftM]
+      cases op
+      simp only [run, bind]
+      congr
+      funext x
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Does either of the following work?
```suggestion
      congr with x
```
```suggestion
      congr! with x
```

File: Mathlib/Control/Monad/Free.lean [hunk 116]
```diff
@@ -0,0 +1,609 @@
...
+/-! ### Continuation Monad via `FreeM` -/
+
+/-- Type constructor for continuation operations. -/
+inductive ContF (r : Type u) (α : Type v) where
+  /-- Call with current continuation: provides access to the current continuation. -/
+  | callCC : ((α → r) → r) → ContF r α
+
+instance {r : Type u} : Functor (ContF r) where
+  map f
+  | .callCC g => .callCC (fun k => g (k ∘ f))
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .callCC g => .callCC fun k => g (k ∘ f)
```

File: Mathlib/Control/Monad/Free.lean (hunk 115 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: first one works. `congr!` isn't recognized as a tactic on my end

Comment (YaelDillies) [reply Mathlib/Control/Monad/Free.lean]: `import Mathlib.Tactic.CongrExclamation` is what you are missing

File: Mathlib/Control/Monad/Free.lean [hunk 117]
```diff
@@ -0,0 +1,629 @@
...
+  | pure a => rfl
+  | liftBind op cont ih =>
+    simp [FreeM.bind,  ← pure_eq_purePure] at *
+    simp [ih]
+
+instance : Bind (FreeM F) where bind := .bind
+
+@[simp]
+theorem bind_eq_bindBind {α β : Type w} :
+    Bind.bind = (FreeM.bind : FreeM F α → _ → FreeM F β) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
theorem bind_eq_bind {α β : Type w} :
    Bind.bind = (FreeM.bind : FreeM F α → _ → FreeM F β) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 118]
```diff
@@ -0,0 +1,629 @@
...
+/-- Map a function over a `FreeM` monad. -/
+def map (f : α → β) : FreeM F α → FreeM F β
+  | .pure a => .pure (f a)
+  | .liftBind op cont => .liftBind op (fun z => FreeM.map f (cont z))
+
+instance: Functor (FreeM F) where
+  map := .map
+
+@[simp]
+theorem map_eq_functorMap {α β : Type w} : Functor.map = FreeM.map (F := F) (α := α) (β := β) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
theorem map_eq_map {α β : Type w} : Functor.map = FreeM.map (F := F) (α := α) (β := β) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 119]
```diff
@@ -0,0 +1,629 @@
...
+    (f <$> (.pure a : FreeM F α)) = .pure (f a) := rfl
+
+@[simp]
+lemma bind_liftBind {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+(f : β → FreeM F γ) :
+    liftBind op cont >>= f = liftBind op (fun x => cont x >>= f) := rfl
+
+@[simp]
+lemma map_liftBind {α β γ : Type u} (f : β → γ) (op : F α)
+(cont : α → FreeM F β) :
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
lemma map_liftBind {α β γ : Type u} (f : β → γ) (op : F α) (cont : α → FreeM F β) :
```

File: Mathlib/Control/Monad/Free.lean [hunk 120]
```diff
@@ -0,0 +1,628 @@
...
+  map := .map
+
+@[simp]
+theorem map_eq_map {α β : Type w} : Functor.map = FreeM.map (F := F) (α := α) (β := β) := rfl
+
+/-- Lift an operation from the effect signature `f` into the `FreeM f` monad. -/
+def lift (op : F ι) : FreeM F ι :=
+  .liftBind op pure
+
+attribute [-simp] liftBind.injEq liftBind.sizeOf_spec
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Can you merge this with the corresponding `attribute [-simp]` on L.92-93?

File: Mathlib/Control/Monad/Free.lean [hunk 121]
```diff
@@ -0,0 +1,628 @@
...
+  | liftBind op k ih =>
+      simp [FreeM.bind, ih]
+
+/-- Collapse a `.bind` that follows a `liftBind` into a single `liftBind` -/
+@[simp]
+lemma bind_liftBind_dot {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+    (f : β → FreeM F γ) :
+    (liftBind op cont).bind f = liftBind op (fun x => (cont x).bind f) := rfl
+
+
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion

```

File: Mathlib/Control/Monad/Free.lean [hunk 122]
```diff
@@ -90,7 +90,8 @@ form patterns. The LHS of these lemmas use `FreeM.pure` which simplifies to `pur
 `pure_eq_pure`.
 -/
 attribute [nolint simpNF] FreeM.pure.sizeOf_spec
-  FreeM.pure.injEq FreeM.liftBind.sizeOf_spec FreeM.liftBind.injEq
+  FreeM.pure.injEq FreeM.liftBind.sizeOf_spec FreeM.liftBind.injEq FreeM.liftBind.injEq
+  FreeM.liftBind.sizeOf_spec
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: You have duplicates now

Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: my mistake, fixed.

File: Mathlib/Control/Monad/Free.lean [hunk 123]
```diff
@@ -0,0 +1,625 @@
...
+    run (.pure a : FreeCont r α) k = k a := rfl
+
+@[simp]
+lemma run_liftBind_callCC {r : Type u} {α β : Type v} (g : (α → r) → r)
+(cont : α → FreeCont r β) (k : β → r) :
+    run (liftBind (.callCC g) cont) k = g (fun a => run (cont a) k) := rfl
+
+/-- Call with current continuation for the Free continuation monad. -/
+def callCC {r : Type u} {α β : Type v} (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) :
+FreeCont r α :=
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    FreeCont r α :=
```

File: Mathlib/Control/Monad/Free.lean [hunk 124]
```diff
@@ -0,0 +1,625 @@
...
+      congr with x
+      apply ih
+
+@[simp]
+lemma run_pure {r : Type u} {α : Type v} (a : α) (k : α → r) :
+    run (.pure a : FreeCont r α) k = k a := rfl
+
+@[simp]
+lemma run_liftBind_callCC {r : Type u} {α β : Type v} (g : (α → r) → r)
+(cont : α → FreeCont r β) (k : β → r) :
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (cont : α → FreeCont r β) (k : β → r) :
```

File: Mathlib/Control/Monad/Free.lean [hunk 125]
```diff
@@ -0,0 +1,625 @@
...
+theorem toContT_eq_run {r α : Type u} (comp : FreeCont r α) (k : α → r) :
+    toContT comp k = run comp k := by
+    induction comp with
+    | pure a => rfl
+    | liftBind op cont ih =>
+      simp only [toContT, FreeM.liftM]
+      cases op
+      simp only [run, bind]
+      congr with x
+      apply ih
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  induction comp with
  | pure a => rfl
  | liftBind op cont ih =>
    simp only [toContT, FreeM.liftM]
    cases op
    simp only [run, bind]
    congr with x
    apply ih
```

File: Mathlib/Control/Monad/Free.lean [hunk 126]
```diff
@@ -0,0 +1,624 @@
...
+    .liftBind .get (fun s =>
+      let (a, s') := f s
+      .liftBind (.set s') (fun _ => .pure a))
+
+@[simp]
+lemma get_def {σ : Type u} : (get : FreeState σ σ) = .lift .get := rfl
+
+@[simp]
+lemma set_def {σ : Type u} (s : σ) : (set s : FreeState σ PUnit) =
+    .liftBind (.set s) (fun _ => .pure PUnit.unit) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: Avoid starting multi-line return type midline
```suggestion
lemma set_def {σ : Type u} (s : σ) :
    (set s : FreeState σ PUnit) = .liftBind (.set s) (fun _ => .pure PUnit.unit) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 127]
```diff
@@ -0,0 +1,624 @@
...
+
+@[simp] lemma bind_pure {α β : Type u} (a : α) (f : α → FreeM F β) :
+    (.pure a >>= f) = f a := rfl
+
+@[simp] lemma map_pure {α β : Type u} (f : α → β) (a : α) :
+    (f <$> (.pure a : FreeM F α)) = .pure (f a) := rfl
+
+@[simp]
+lemma bind_liftBind {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+(f : β → FreeM F γ) :
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (f : β → FreeM F γ) :
```

File: Mathlib/Control/Monad/Free.lean [hunk 128]
```diff
@@ -0,0 +1,624 @@
...
+  | .pure a, k => k a
+  | .liftBind (ContF.callCC g) cont, k => g (fun a => run (cont a) k)
+
+/--
+The canonical interpreter `toContT` derived from `liftM` agrees with the hand-written
+recursive interpreter `run` for `FreeCont`.
+-/
+@[simp]
+theorem toContT_eq_run {r α : Type u} (comp : FreeCont r α) (k : α → r) :
+  toContT comp k = run comp k := by
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]: The type should be indented by four spaces and the proof by two
```suggestion
    toContT comp k = run comp k := by
```

File: Mathlib/Control/Monad/Free.lean [hunk 129]
```diff
@@ -0,0 +1,624 @@
...
+    congr with x
+    apply ih
+
+@[simp]
+lemma run_pure {r : Type u} {α : Type v} (a : α) (k : α → r) :
+    run (.pure a : FreeCont r α) k = k a := rfl
+
+@[simp]
+lemma run_liftBind_callCC {r : Type u} {α β : Type v} (g : (α → r) → r)
+  (cont : α → FreeCont r β) (k : β → r) :
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (cont : α → FreeCont r β) (k : β → r) :
```

File: Mathlib/Control/Monad/Free.lean [hunk 130]
```diff
@@ -0,0 +1,624 @@
...
+instance : Pure (FreeM F) where pure := .pure
+
+@[simp]
+theorem pure_eq_pure : (pure : α → FreeM F α) = FreeM.pure := rfl
+
+/-- Bind operation for the `FreeM` monad. -/
+protected def bind (x : FreeM F α) (f : α → FreeM F β) : FreeM F β :=
+  match x with
+  | .pure a => f a
+  | .liftBind op cont => .liftBind op (fun z => FreeM.bind (cont z) f)
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .liftBind op cont => .liftBind op fun z => .bind (cont z) f
```

File: Mathlib/Control/Monad/Free.lean [hunk 131]
```diff
@@ -0,0 +1,624 @@
...
+instance : Bind (FreeM F) where bind := .bind
+
+@[simp]
+theorem bind_eq_bind {α β : Type w} :
+    Bind.bind = (FreeM.bind : FreeM F α → _ → FreeM F β) := rfl
+
+/-- Map a function over a `FreeM` monad. -/
+def map (f : α → β) : FreeM F α → FreeM F β
+  | .pure a => .pure (f a)
+  | .liftBind op cont => .liftBind op (fun z => FreeM.map f (cont z))
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .liftBind op cont => .liftBind op fun z => FreeM.map f (cont z)
```

File: Mathlib/Control/Monad/Free.lean [hunk 132]
```diff
@@ -0,0 +1,624 @@
...
+/-- Rewrite `lift` to the constructor form so that simplification stays in constructor
+normal form. -/
+@[simp]
+lemma lift_def (op : F ι) :
+    (lift op : FreeM F ι) = liftBind op pure := rfl
+
+@[simp]
+lemma map_lift {ι : Type u} {β : Type u} (f : ι → β) (op : F ι) :
+    (f <$> (lift op : FreeM F ι)) =
+      liftBind op (fun z : ι => (pure (f z) : FreeM F β)) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (f <$> (lift op : FreeM F ι)) = liftBind op fun z : ι => (pure (f z) : FreeM F β) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 133]
```diff
@@ -0,0 +1,624 @@
...
+/-- `.pure a` followed by `bind` collapses immediately. -/
+@[simp]
+lemma bind_pure_left (a : α) (f : α → FreeM F β) :
+    (.pure a : FreeM F α).bind f = f a := rfl
+
+@[simp]
+lemma bind_pure_right {α : Type u} (x : FreeM F α) :
+    x.bind (.pure) = x := by
+  induction x with
+  | pure a       => rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | pure a => rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 134]
```diff
@@ -0,0 +1,624 @@
...
+  | liftBind op k ih =>
+      simp [FreeM.bind, ih]
+
+/-- Collapse a `.bind` that follows a `liftBind` into a single `liftBind` -/
+@[simp]
+lemma bind_liftBind_dot {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+    (f : β → FreeM F γ) :
+    (liftBind op cont).bind f = liftBind op (fun x => (cont x).bind f) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (liftBind op cont).bind f = liftBind op fun x => (cont x).bind f := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 135]
```diff
@@ -0,0 +1,624 @@
...
+    (do let a ← x.liftM interp; (f a).liftM interp) = (x >>= f : FreeM F β).liftM interp := by
+  induction x generalizing f with
+  | pure a => simp only [← pure_eq_pure, ← liftM_pure, pure_bind, bind, FreeM.bind]
+  | liftBind op cont ih =>
+    simp_rw [bind_eq_bind] at *
+    rw [FreeM.bind, ← liftM_liftBind, ← liftM_liftBind, bind_assoc]
+    simp_rw [ih]
+
+@[simp]
+lemma liftM_lift {M : Type u → Type w} [Monad M] [LawfulMonad M] {α : Type u}
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
lemma liftM_liftBind_pure {M : Type u → Type w} [Monad M] [LawfulMonad M] {α : Type u}
```

File: Mathlib/Control/Monad/Free.lean [hunk 136]
```diff
@@ -0,0 +1,624 @@
...
+    (interp : {β : Type u} → F β → M β) (op : F α) :
+    (FreeM.liftBind op FreeM.pure).liftM interp = interp op := by
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    (FreeM.liftBind op .pure).liftM interp = interp op := by
```

File: Mathlib/Control/Monad/Free.lean [hunk 137]
```diff
@@ -0,0 +1,624 @@
...
+lemma get_def {σ : Type u} : (get : FreeState σ σ) = .lift .get := rfl
+
+@[simp]
+lemma set_def {σ : Type u} (s : σ) : (set s : FreeState σ PUnit) =
+    .liftBind (.set s) (fun _ => .pure PUnit.unit) := rfl
+
+instance {σ : Type u} : MonadState σ (FreeState σ) := inferInstance
+
+@[simp] lemma bind_pure {α β : Type u} (a : α) (f : α → FreeM F β) :
+    (.pure a >>= f) = f a := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    .pure a >>= f = f a := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 138]
```diff
@@ -0,0 +1,624 @@
...
+
+@[simp] lemma map_pure {α β : Type u} (f : α → β) (a : α) :
+    (f <$> (.pure a : FreeM F α)) = .pure (f a) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    f <$> (.pure a : FreeM F α) = .pure (f a) := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 139]
```diff
@@ -0,0 +1,624 @@
...
+
+@[simp]
+lemma bind_liftBind {α β γ : Type u} (op : F α) (cont : α → FreeM F β)
+(f : β → FreeM F γ) :
+    liftBind op cont >>= f = liftBind op (fun x => cont x >>= f) := rfl
+
+@[simp]
+lemma map_liftBind {α β γ : Type u} (f : β → γ) (op : F α) (cont : α → FreeM F β) :
+    f <$> liftBind op cont = liftBind op (fun x => f <$> cont x) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    f <$> liftBind op cont = liftBind op fun x => f <$> cont x := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 140]
```diff
@@ -0,0 +1,624 @@
...
+@[simp]
+theorem toWriterT_eq_run {ω : Type u} [Monoid ω] {α} (comp : FreeWriter ω α) :
+    toWriterT comp = run comp := by
+  induction' comp with a b op cont ih
+  · simp only [toWriterT, FreeM.liftM, pure, run, WriterT.run]
+  · simp only [toWriterT, FreeM.liftM] at *
+    rcases op
+    · simp only [run] at *
+      rw [←ih PUnit.unit]
+      congr
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    simp only [run] at *
    rw [←ih PUnit.unit]
    congr
```

File: Mathlib/Control/Monad/Free.lean [hunk 141]
```diff
@@ -0,0 +1,624 @@
...
+accumulating its log, the resulting function is applied to rewrite the accumulated log
+before re-emission.
+-/
+def pass {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) : FreeWriter ω α :=
+  let ((a, f), w) := run m
+  liftBind (.tell (f w)) (fun _ => .pure a)
+
+@[simp]
+lemma pass_def {ω : Type u} [Monoid ω] {α} (m : FreeWriter ω (α × (ω → ω))) :
+    pass m = (let ((a, f), w) := run m; liftBind (.tell (f w)) (fun _ => .pure a)) := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    pass m = let ((a, f), w) := run m; liftBind (.tell (f w)) fun _ => .pure a := rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 142]
```diff
@@ -0,0 +1,624 @@
...
+abbrev FreeCont (r : Type u) := FreeM (ContF r)
+
+namespace FreeCont
+
+instance {r : Type u} : Monad (FreeCont r) := inferInstance
+instance {r : Type u} : LawfulMonad (FreeCont r) := inferInstance
+
+/-- Interpret `ContF r` operations into `ContT r Id`. -/
+def contInterp {r : Type u} {α : Type v} : ContF r α → ContT r Id α
+  | ContF.callCC g => fun k => pure (g (fun a => (k a).run))
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .callCC g, k => pure (g fun a => (k a).run)
```

File: Mathlib/Control/Monad/Free.lean [hunk 143]
```diff
@@ -0,0 +1,624 @@
...
+  comp.liftM contInterp
+
+/-- `toContT` is the unique interpreter extending `contInterp`. -/
+theorem toContT_unique {r α : Type u} (g : FreeCont r α → ContT r Id α)
+    (h : ExtendsHandler contInterp g) : g = toContT := (extendsHandler_iff contInterp g).mp h
+
+/-- Run a continuation computation with the given continuation. -/
+def run {r : Type u} {α : Type v} : FreeCont r α → (α → r) → r
+  | .pure a, k => k a
+  | .liftBind (ContF.callCC g) cont, k => g (fun a => run (cont a) k)
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  | .liftBind (.callCC g) cont, k => g fun a => run (cont a) k
```

File: Mathlib/Control/Monad/Free.lean [hunk 144]
```diff
@@ -0,0 +1,624 @@
...
+@[simp]
+lemma run_liftBind_callCC {r : Type u} {α β : Type v} (g : (α → r) → r)
+  (cont : α → FreeCont r β) (k : β → r) :
+    run (liftBind (.callCC g) cont) k = g (fun a => run (cont a) k) := rfl
+
+/-- Call with current continuation for the Free continuation monad. -/
+def callCC {r : Type u} {α β : Type v} (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) :
+  FreeCont r α := liftBind (ContF.callCC (fun k =>
+  run (f ⟨fun x => liftBind (ContF.callCC (fun _ => k x)) pure⟩) k
+  )) pure
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    FreeCont r α :=
  liftBind (.callCC fun k => run (f ⟨fun x => liftBind (.callCC fun _ => k x) pure⟩) k) pure
```

File: Mathlib/Control/Monad/Free.lean [hunk 145]
```diff
@@ -0,0 +1,624 @@
...
+
+@[simp]
+lemma callCC_def {r : Type u} {α β : Type v} (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) :
+    callCC f =
+    liftBind (ContF.callCC (fun k =>
+      run (f ⟨fun x => liftBind (ContF.callCC (fun _ => k x)) pure⟩) k
+    )) pure := rfl
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
      liftBind (.callCC fun k => run (f ⟨fun x => liftBind (.callCC fun _ => k x) pure⟩) k) pure :=
  rfl
```

File: Mathlib/Control/Monad/Free.lean [hunk 146]
```diff
@@ -0,0 +1,624 @@
...
+
+instance {r : Type u} : MonadCont (FreeCont r) where
+  callCC := FreeCont.callCC
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
  callCC := .callCC
```

File: Mathlib/Control/Monad/Free.lean [hunk 147]
```diff
@@ -0,0 +1,624 @@
...
+
+/-- `run` of a `callCC` node simplifies to running the handler with the current continuation. -/
+@[simp]
+lemma run_callCC {r : Type u} {α β : Type v}
+    (f : MonadCont.Label α (FreeCont r) β → FreeCont r α) (k : α → r) :
+    run (callCC f) k =
+      run (f ⟨fun x => liftBind (ContF.callCC (fun _ => k x)) pure⟩) k := by
```
Comment (YaelDillies) [inline Mathlib/Control/Monad/Free.lean]:
```suggestion
    run (callCC f) k = run (f ⟨fun x => liftBind (.callCC fun _ => k x) pure⟩) k := by
```

**Review by YaelDillies — APPROVED** [review]
I'll leave this to you, @**Eric Wieser**

maintainer merge?

**Comment by quangvdao** [comment]
This is great, thanks for all the work!

**Review by quangvdao — APPROVED** [review]

File: Mathlib/Control/Monad/Free.lean [hunk 148]
```diff
@@ -0,0 +1,254 @@
...
+
+This means that `g` is a monad morphism from the free monad `FreeM F` to the
+monad `M`, and that it extends the interpretation of individual operations
+given by `f`.
+
+Formally, `g` satisfies the two equations:
+- `g (pure a) = pure a`
+- `g (liftBind op k) = f op >>= fun x => g (k x)`
+-/
+structure ExtendsHandler {M : Type u → Type w} [Monad M] {α : Type u}
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: What do you think of calling this `IsInterpretedBy f g` or `Interprets g f` or `InterpretsEffect g f`?

File: Mathlib/Control/Monad/Free/Effects.lean
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free/Effects.lean:1]: I split this file to keep things manageable, but wasn't sure on the right name. You seem to switch between calling things effects and calling them instances; which is better?

File: Mathlib/Control/Monad/Free/Effects.lean [hunk 149]
```diff
@@ -0,0 +1,367 @@
...
+lemma runState_pure {σ : Type u} {α : Type v} (a : α) (s₀ : σ) :
+    runState (.pure a : FreeState σ α) s₀ = s₀ := rfl
+
+@[simp]
+lemma runState_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    runState (liftBind .get k) s₀ = runState (k s₀) s₀ := rfl
+
+@[simp]
+lemma runState_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    runState (liftBind (.set s') k) s₀ = runState (k .unit) s' := rfl
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free/Effects.lean]: We don't have this API for `StateT`, so I don't think we should have it here either.

File: Mathlib/Control/Monad/Free/Effects.lean [hunk 150]
```diff
@@ -0,0 +1,367 @@
...
+lemma evalState_pure {σ : Type u} {α : Type v} (a : α) (s₀ : σ) :
+    evalState (.pure a : FreeState σ α) s₀ = a := rfl
+
+@[simp]
+lemma evalState_get {σ : Type u} {α : Type v} (k : σ → FreeState σ α) (s₀ : σ) :
+    evalState (liftBind .get k) s₀ = evalState (k s₀) s₀ := rfl
+
+@[simp]
+lemma evalState_set {σ : Type u} {α : Type v} (s' : σ) (k : PUnit → FreeState σ α) (s₀ : σ) :
+    evalState (liftBind (.set s') k) s₀ = evalState (k .unit) s' := rfl
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free/Effects.lean]: For `StateT` this is just called `run'`, which I think we should match.

File: Mathlib/Control/Monad/Free/Effects.lean (hunk 149 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Free/Effects.lean]: I deleted these in 1ccd42f9ac1806841616a405aac4ffcff93071ff.

File: Mathlib/Control/Monad/Free/Effects.lean (hunk 150 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Free/Effects.lean]: I renamed these in 1ccd42f9ac1806841616a405aac4ffcff93071ff.

File: Mathlib/Control/Monad/Free.lean (hunk 148 above)
Comment (eric-wieser) [reply Mathlib/Control/Monad/Free.lean]: @tannerduve, @quangvdao

Comment (tannerduve) [reply Mathlib/Control/Monad/Free.lean]: I think any of these are better than `ExtendsHandler`, I vote for `Interprets g f`

File: Mathlib/Control/Monad/Free/Effects.lean
Comment (tannerduve) [reply Mathlib/Control/Monad/Free/Effects.lean:1]: Effects is better, let's go with it.

File: Mathlib/Control/Monad/Free/Effects.lean (hunk 149 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free/Effects.lean]: Sounds good!

File: Mathlib/Control/Monad/Free/Effects.lean (hunk 150 above)
Comment (tannerduve) [reply Mathlib/Control/Monad/Free/Effects.lean]: Thanks!

File: Mathlib/Control/Monad/Free.lean [hunk 151]
```diff
@@ -0,0 +1,260 @@
...
+
+theorem interprets_liftM (f : {ι : Type u} → F ι → m ι) :
+    Interprets f (·.liftM f : FreeM F α → _) where
+  apply_pure _ := rfl
+  apply_liftBind _ _ := rfl
+
+/--
+The universal property of the free monad `FreeM`. That is, `liftM f` is the unique interpreter that
+extends the effect handler `f` to interpret `FreeM F` computations in monad `m`.
+-/
```
Comment (eric-wieser) [inline Mathlib/Control/Monad/Free.lean]: I had a go at writing this the "normal" way for universal properties, but it ended up fairly annoying:
```

def liftMEquiv [LawfulMonad m]:
    ({ι : Type u} → F ι → m ι) ≃
      {g : {α : Type u} → FreeM F α → m α // LawfulMonadLift (inst := ⟨@g⟩)} where
  toFun f := .mk (·.liftM f) <| letI : MonadLift (FreeM F) m := ⟨(·.liftM f)⟩; ⟨
    fun _ => by simp,
    fun x f => by cases x <;> simp [FreeM.bind]⟩
  invFun g _ op := g.1 (.lift op)
  left_inv _ := by simp
  right_inv g := by
    letI : MonadLift (FreeM F) m := ⟨g.1⟩
    obtain ⟨g, hg⟩ := g
    have {α} : @g α = monadLift := rfl
    ext _ x
    cases x
    · simp [this]
      simp [← pure_eq_pure]
    · simp [this]
      sorry
```
something to revisit in a later PR I think.

**Comment by quangvdao** [comment]
Something I learned today: we can define the free(r) monad, and even monad transformer, using Church encoding / continuation-passing style:
```
import Mathlib.Control.Monad.Cont

universe u v w y z

-- Recall that `ContT r m α = (α → m r) → m r`
def FreeContT (f : Type z → Type y) (m : Type u → Type v) (α : Type w) :
    Type (max (u + 1) v w y (z + 1)) :=
  {r : Type u} → ({x : Type z} → f x → ContT r m x) → ContT r m α
  
def FreeContM (f : Type z → Type y) (α : Type w) : Type (max (u + 1) w y (z + 1)) :=
  FreeContT f Id.{u} α
```
The two functions are handlers for the different constructors. Namely, if you unfold the definition of `FreeContT`, you would get:
```
{r : Type u} → (handleEff : {x : Type z} → f x → (x → m r) → m r) → (handlePure : α → m r) → m r
```
This encoding bypasses non-positivity issues when trying to define the free monad transformer inductively. Might be valuable in another PR to mathlib.
